2156-02-25 06:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Attempts to place Right A-line bilaterally, unable to feed wire
   -Unable to thread wire in R subclavian despite multiple attempts at
   repositioning.
   -Unable to tolerate decrease in tidal volume on CMV [**3-6**] increased work
   of breathing/dysynchrony
   -Total boluses overnight of 2.75L
   -decrease in hemoptysis; minimal bloody secretions since admission
 MULTI LUMEN - START [**2156-2-24**] 11:30 AM
   put in on floor at 11:24 : R femoral line placed on the floor during
   code/PEA arrest
 INVASIVE VENTILATION - START [**2156-2-24**] 11:38 AM; Intubated on the
   floor prior to transfer to the [**Hospital Unit Name 44**]
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Base
   Unknown;
   Lactose Intolerance (Oral) (Lactase)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2156-2-24**] 06:00 PM
   Metronidazole - [**2156-2-25**] 06:19 AM
   Vancomycin IV
   Vancomycin po
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 12.5 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2156-2-25**] 03:02 AM
   Fentanyl - [**2156-2-25**] 03:02 AM
   Other medications:
   Changes to medical and family history:none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable [**3-6**] patient intubated/sedated
   Flowsheet Data as of  [**2156-2-25**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.1
C (98.8
   HR: 96 (87 - 133) bpm
   BP: 92/53(61){78/39(50) - 173/112(123)} mmHg
   RR: 18 (16 - 28) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 59 Inch
             Total In:
                                                                  3,026 mL
                                                                    964 mL
   PO:
             TF:
   IVF:
                                                                  1,966 mL
                                                                    859 mL
   Blood products:
   Total out:
                                                                    703 mL
                                                                     74 mL
   Urine:
                                                                    360 mL
                                                                     74 mL
   NG:
                                                                     30 mL
                                                                    105 mL
   Stool:
   Drains:
   Balance:
                                                                  2,323 mL
                                                                    890 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 350 (280 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 11
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: 7.39/40/151/21/Units: mEq/L
   Ve: 6.7 L/min
   PaO2 / FiO2: 252
   Physical Examination
   Peripheral Vascular: (Right radial pulse: 1), (Left radial pulse: 1),
   (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Skin:  warm extremities, 1+ pitting edema of R hand, numerous bruses,
   no rash
   Neurologic: Responds to: voice, Movement: withdraws from pain, Tone:
   increased in L upper/lower extreme; appears to have paralysis of R leg
   with upgoing toe on R side
   Labs / Radiology
   329 K/uL
   6.9 g/dL
   150 mg/dL
   0.7 mg/dL
   21 mEq/L
   4.2 mEq/L
   26 mg/dL
   117 mEq/L
   145 mEq/L
   22.5 %
   13.5 K/uL
        [image002.jpg] VBG: 7.31/42/34 lactate 1.1
                                                   Random [**Last Name (un) **] 19.9,
   30min: 32.5  60min: 38.2
                             [**2156-2-24**]  03:54 PM
                             [**2156-2-24**]  04:03 PM
                             [**2156-2-24**]  05:45 PM
                             [**2156-2-24**]  08:34 PM
                             [**2156-2-25**]  04:33 AM
   WBC
   20.6
   13.5
   Hct
   26.4
   24.3
   22.5
   Plt
   379
   329
   Cr
   0.8
   0.7
   TropT
   0.13
   0.12
   0.10
   TCO2
   23
   25
   Glucose
   108
   150
   Other labs: PT / PTT / INR:12.6/29.6/1.1, CK / CKMB /
   Troponin-T:662/13/0.10, ALT / AST:57/84, Alk Phos / T Bili:58/0.2,
   Amylase / Lipase:111/23, Differential-Neuts:93.1 %, Band:Units: %
   Range: 0-5 %, Lymph:4.7 %, Mono:2.2 %, Eos:Units: %
   Range: 0-4 %, Lactic Acid:1.1 mmol/L, Albumin:2.4 g/dL, LDH:399 IU/L,
   Mg++:2.0 mg/dL, PO4:3.2 mg/dL  Ca 8
   Cultures: [**2-24**] Blood CX: NGTD; [**2-23**] Urine Cx: NGTD; [**2-23**] Stool CX: neg
   for C.diff;   [**2-22**] Urine CX: >100,000 GNR
   Assessment and Plan
   A/P: [**Age over 90 52**]yo F with DMII, PVD, COPD, frequent UTIs p/w hypotension, fever
   and altered mental status found to have GNR [**Hospital 83**] transferred to ICU for
   PEA arrest on the floor, resuscitated and intubated.
   #Cardiac Arrest
most likely [**3-6**] aspiration event resulting in vagal
   stimulus and hypotension/bradycardia.  In addition gastric contents
   were suctioned from her ETT immediately following intubation.  Other
   possible causes include sepsis vs. hypoxia vs. MI vs pulmonary
   embolism.  She was resuscitated on the floor with atropine,
   epinephrine, IVF's, chest compressions and intubation.
   -continue with IVF boluses
   -intubated to maintain airway/prevent aspiration
   -cardiac enzymes -> not consistant with ACS as cause of PEA arrest
   given relatively minor elevation in CE
s which is more likely the
   result of cardiac arrest and resuscitation than the cause.
   -ekg
   -LENI's to evaluate risk of PE
   -continue with suctioning prn
   #Acute Respiratory Distress Syndrome- diffuse alveolar infiltrates and
   P:F <200 (ABG on 100%FIO2 7.39/40/151)  c/w ARDS likely [**3-6**]
   aspiration.  Other potential causes of respiratory failure and
   bilateral infiltrates is DAH vs pneumonia vs. CHF exacerbation.  Also
   with bright red blood suctioned from ET tube on intubation ?trauma vs
   DAH.  She has had minimal blood per ETT since initial intubation.
   -continue with broad coverage antibiotics with vanc and cefepime (f/u
   sensitivities of GNR's on urine cx)
   -add flagyl for anaerobic coverage given high risk of aspiration
   -wean FIO2 for PaO2 >60
   -target TV of [**7-11**] cc/kg IBW; changed to pressure support on AM rounds,
   continue as tolerated
   -did not tolerate SBT this am, attempt again tomorrow morning
   #Hypotension
 most likely cause is systemic inflammatory response [**3-6**]
   pneumonitis/pneumonia.  [**Last Name (un) 45**] stim not c/w adrenal insufficiency.  She
   did not require pressors.
   -treat with abx as above
   -IVF's as needed to keep SBP 140
s given likely high resistance of
   renal arteries [**3-6**] PVD
   #Hemoptysis: ddx pulmonary contusions from chest compressions vs. DAH
   vs. ariway trauma during intubation.  At this time airway blood seems
   to be significantly decreasing making DAH unlikely.
   -monitor hemoptysis
   -check repeat HCT, transfuse for <25
   # Altered mental status:contributing factors include infecton
   (UTI/PNA)/fevers/ hypernatremia and hypotension.  Head CT on admission
   unremarkable.
   - treat infection as above
   - correct hypernatremia
   # Hypernatremia: Free water deficit of approximately 1L based on Na
   145.
   - replete with D5 1L over 24 hours
   - f/u pm lytes
   .
   #Anemia -Previous w/u c/w anemia of chronic disease with normal
   folate/b12.  Currently with HCT trending down in setting of acute
   illness/hemoptysis and IVF
s.  This AM HCT <25
   - transfuse 1 unit PRBC this am given recent bleeding and acute illness
   -check pm HCT
   #h/o C.diff colitis: continue po vancomycin. confirm dose and days left
   with [**Doctor First Name 65**] (daughter)in am.
   # COPD: continue nebs and treat PNA. Holding off on steroid for now
   given no active wheezing and O2 at 2L which she uses at night while
   mouth breaths.
   # Dysphagia: Concern that aspiration may have led to pt's PEA arrest.
   Per last s/s eval, recommendations are to keep pt NPO including no oral
   meds; cautiously given pt po food for pleasure (nectar thick  liquids
   and purees best)
   # DM II:  continue humalog sliding scale, follow fingersticks and
   adjust prn
   # Hypothyroidism:   continue levothyroxine
   # FEN: TF - NPO for now (tube feeds: Replete with Fiber at 45cc/hr
   through PEG) replete lytes PRN, treat hypernatremia with free water
   boluses.
   .
   #PPX: pneumoboots (d/c SC Heparin [**Hospital1 **] for now given elevated
   PTT/hemoptysis and previously elevated PTT with TID heparin), bowel
   regimen, fall and aspiration precaution.
   .
   # Dispo: ICU
   .
   # Code Status: Do not resuscitate (DNR) No shocks or CPR. already
   intubated. pressors OK.(discussed with [**Doctor First Name 65**] who is HCP)
   - palliative care consult
   ICU Care
   Nutrition:
   Glycemic Control:  humalog sliding scale
   Lines: Right femoral CVL placed during code; will need to be removed
   today; attempt to place L sided CVL (IJ vs Subclav)
   Prophylaxis:
   DVT: pneumoboots (until hemoptysis resolved, then can go back to SQHep)
   Stress ulcer: lansoprazole
   VAP:  hob elevated to 30degrees, mouth care per ICU protocol
   Comments:
   Communication:  Comments: With daughter [**Name (NI) 84**], HCP
   [**Name (NI) 66**] status: Do not resuscitate (DNR) No shocks or CPR. already
   intubated. pressors OK.(discussed with [**Doctor First Name 65**] who is HCP)
   Disposition: ICU

2156-02-25 10:18:00 Physician Attending Progress Note
Chief Complaint: cardiac arrest, respiratory failure, hypotension,
   hemoptysis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Received significant fluids overnight to support BP. Urinary output
   marginal.
   Unable to pass central line - couldn't get wired past 10 cm. Right
   femoral line still in place from code.
   Bleeding from ETT decreasing. [**Last Name (un) **] stim WNL. Cardiac enzymes coming
   down.
   24 Hour Events:
 MULTI LUMEN - START [**2156-2-24**] 11:30 AM
   put in on floor at 11:24
 INVASIVE VENTILATION - START [**2156-2-24**] 11:38 AM
 EKG - At [**2156-2-24**] 08:17 PM
   History obtained from Medical records
   Patient unable to provide history: On ventilator
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Base
   Unknown;
   Lactose Intolerance (Oral) (Lactase)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2156-2-24**] 06:00 PM
   Metronidazole - [**2156-2-25**] 06:19 AM
   Vancomycin - [**2156-2-25**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 12.5 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2156-2-25**] 03:02 AM
   Fentanyl - [**2156-2-25**] 03:02 AM
   Other medications:
   Prevacid
   Iron
   ca carbonate
   MVI
   ASA
   Insulin
   Prosac
   Synthroid
   Atrovent
   Albuterol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Hypotensive
   Respiratory: Intubated on vent
   Gastrointestinal: NPO
   Genitourinary: Foley
   Musculoskeletal: Thin, poor muscle tone
   Psychiatric / Sleep: Sedated
   Flowsheet Data as of  [**2156-2-25**] 10:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 35.9
C (96.7
   HR: 78 (78 - 133) bpm
   BP: 123/65(76){78/39(50) - 173/112(123)} mmHg
   RR: 19 (16 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
           Total In:
                                                                  3,026 mL
                                                                  1,625 mL
   PO:
           TF:
   IVF:
                                                                  1,966 mL
                                                                  1,267 mL
   Blood products:
   133 mL
   Total out:
                                                                    703 mL
                                                                    108 mL
   Urine:
                                                                    360 mL
                                                                    108 mL
   NG:
                                                                     30 mL
                                                                    225 mL
   Stool:
   Drains:
   Balance:
                                                                  2,323 mL
                                                                  1,517 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 350 (280 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 11
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: 7.39/40/151/21/Units: mEq/L
   Ve: 7.3 L/min
   PaO2 / FiO2: 252
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: Heart sounds distant. No gallop or murmur. PMI diffuse
   Peripheral Vascular: Right hand warmer than yesterday
   Respiratory / Chest: (Expansion: Symmetric), Distant breath sounds.
   Prolonged expiratory phase. Few expiratory wheezes diffusely
   Abdominal: Soft, Diminished breath sounds. PEG
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, Ecchymoses
   Neurologic: Responds to: Tactile stimuli, Movement: Purposeful, Tone:
   Not assessed, Withdraws to pain.
   Labs / Radiology
   6.9 g/dL
   329 K/uL
   150 mg/dL
   0.7 mg/dL
   21 mEq/L
   4.2 mEq/L
   26 mg/dL
   117 mEq/L
   145 mEq/L
   22.5 %
   13.5 K/uL
        [image002.jpg]
                             [**2156-2-24**]  03:54 PM
                             [**2156-2-24**]  04:03 PM
                             [**2156-2-24**]  05:45 PM
                             [**2156-2-24**]  08:34 PM
                             [**2156-2-25**]  04:33 AM
   WBC
   20.6
   13.5
   Hct
   26.4
   24.3
   22.5
   Plt
   379
   329
   Cr
   0.8
   0.7
   TropT
   0.13
   0.12
   0.10
   TCO2
   23
   25
   Glucose
   108
   150
   Other labs: PT / PTT / INR:12.6/29.6/1.1, CK / CKMB /
   Troponin-T:662/13/0.10, ALT / AST:57/84, Alk Phos / T Bili:58/0.2,
   Amylase / Lipase:111/23, Differential-Neuts:93.1 %, Band:Units: %
   Range: 0-5 %, Lymph:4.7 %, Mono:2.2 %, Eos:Units: %
   Range: 0-4 %, Lactic Acid:1.1 mmol/L, Albumin:2.4 g/dL, LDH:399 IU/L,
   Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP)
 HYPERNATREMIA (HIGH SODIUM)
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
 CARDIAC ARREST
 EXTREMITY ULCER, CHRONIC (INCLUDING GANGRENE)
 DIABETES MELLITUS (DM), TYPE II
 HYPOTHYROIDISM
 ANEMIA, OTHER
   Acute respiratory failure
   Hypotension
   Hemoptysis
   Aspiration
   Patient with somewhat improved hemodynamics although urine output
   remains quite marginal. Creat still normal and in fact better than
   yesterday. Unable to assess CVP because of problems placing line. Would
   continue to support with fluids today. Consider attempt at left IJ.
   Concern that patient may have renal artery stenosis and may require
   higher driving pressures to perfuse the kdineys.
   Oxygenation still marginal. During rounds we attempted to reduce PEEP
   to 5 and FIO2 to 0.4 and patient desaturated to 80's. Suspect that she
   still has element of capillary leak syndrome in lungs from aspiration.
   Have placed on CPAP=10; will try to reduce FIO2 later today.
   Hemoptysis has improved. Receiving transfusion today for worsening
   anemia.
   Serum sodium still elevated. Needs additional free water.
   Remains on antibiotics for pneumonia and C Diff.
   Continue bronchodilators for COPD.
   Mental status somewhat better today, although not able to reliably
   communicate with her. [**Name2 (NI) 81**] tube feedings.
   Due for LENI's today.
   ICU Care
   Nutrition:
   Comments: Begin tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2156-2-24**] 11:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments: Family meeting last
   evening. They are comfortable reassessing after 72 hours
   Code status: DNR / DNI
   Disposition :
   Total time spent: 45 critical care minutes
   Patient is critically ill

2156-02-26 06:38:00 Physician Resident Progress Note
Chief Complaint: PEA Arrest
   24 Hour Events:
   -Urine micro shoed Kleb. Pneumoniae R to Cipro and Nitrofuratoin, but
   kept on broad ABX coverage since covering for aspiration PNA.
   -LENIs performed, but were unread
   -CXR obtained and showed some improvement in pulm edema and RLL opacity
   which is c/w diagnosis of aspiration
    -LIJ central line was placed
   -Bolused 3 L NS for CVP < 12 and transient UOP of 25 cc/hr.  With
   boluses pt maintained UOP of 40-80 cc/hr
   - plan for SBT this AM
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Base
   Unknown;
   Lactose Intolerance (Oral) (Lactase)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2156-2-25**] 08:00 AM
   Cefipime - [**2156-2-25**] 06:00 PM
   Metronidazole - [**2156-2-26**] 05:58 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 12.5 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: none
   Flowsheet Data as of  [**2156-2-26**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 93 (68 - 134) bpm
   BP: 96/41(55){92/40(55) - 136/65(82)} mmHg
   RR: 16 (11 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 43.6 kg (admission): 40.4 kg
   Height: 59 Inch
    CVP: 11 (4 - 13)mmHg
   Urine output ~50cc/hr
   Total In:
                                                                  6,042 mL
                                                                  1,440 mL
   PO:
                                  TF:
   IVF:
                                                                  5,262 mL
                                                                  1,440 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    477 mL
                                                                    355 mL
   Urine:
                                                                    477 mL
                                                                    355 mL
   NG:
                                                                    405 mL
                                                                      0 mL
   Stool:
   Drains:
   Balance:
                                                                  5,565 mL
                                                                  1,086 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 615 (570 - 617) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 15
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ///19/
   Ve: 8.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   299 K/uL
   7.6 g/dL
   90 mg/dL
   0.6 mg/dL
   19 mEq/L
   3.6 mEq/L
   22 mg/dL
   117 mEq/L
   143 mEq/L
   24.2 %
   12.1 K/uL
        [image002.jpg]   AG = 7
                             [**2156-2-24**]  03:54 PM
                             [**2156-2-24**]  04:03 PM
                             [**2156-2-24**]  05:45 PM
                             [**2156-2-24**]  08:34 PM
                             [**2156-2-25**]  04:33 AM
                             [**2156-2-25**]  03:41 PM
                             [**2156-2-26**]  04:14 AM
   WBC
   20.6
   13.5
   12.1
   Hct
   26.4
   24.3
   22.5
   23.5
   24.2
   Plt
   379
   329
   299
   Cr
   0.8
   0.7
   0.7
   0.6
   TropT
   0.13
   0.12
   0.10
   TCO2
   23
   25
   Glucose
   108
   150
   157
   90
   Other labs: PT / PTT / INR:12.8/28.8/1.1, CK / CKMB /
   Troponin-T:662/13/0.10, ALT / AST:43/42, Alk Phos / T Bili:69/0.2,
   Amylase / Lipase:111/23, Differential-Neuts:93.1 %, Band:Units: %
   Range: 0-5 %, Lymph:4.7 %, Mono:2.2 %, Eos:Units: %
   Range: 0-4 %, Lactic Acid:1.1 mmol/L, Albumin:2.4 g/dL, LDH:399 IU/L,
   Mg++:1.7 mg/dL, PO4:1.8 mg/dL  Ca7.6
   MICRO:
   [**2-25**] Urine Cx: NGTD
   [**2-22**] Urine CX: Klebsiella (resistant to cipro, nitrofurantoin)
   [**2-22**], [**2-24**] blood cx
s: NGTD
   Radiology:
   [**2-25**] CXR:
   1. Improvment of pulmonary edema and RLL opacity consistent with aspira
   tion
   2. Standard position of central venous line.
   [**2-26**] CXR: final read pending
   Assessment and Plan
   [**Age over 90 52**] yo F with DMII, PVD, COPD, frequent UTI
s p/w hypotension, fever,
   AMS, Klebsiella [**Hospital **] transferred to ICU following PEA arrest and
   intubation on the floor.
 Hypoxic respiratory failure:  most likely [**3-6**] combination of
   aspiration pneumonia/pneumonitis and pulmonary edema in setting of PEA
   arrest.  ABG on admission to ICU c/w ARDS with P:F <200.  Able to
   decrease ventillatory requirements over past 24 hours, now on 50% FIO2
   Pressure support 5  PEEP 10, with O2 sat of 95%.
   -continue with broad spectrum abx coverage of vanc, cefepime, flagyl
   which covers for aspiration pneumonia and Klebsiella UTI
   -continue to wean FIO2 as tolerated
   -low suspicion for PE but she had LENI
s yesterday; f/u LENI
   -did poorly  on SBT this morning with desaturation, tachycardia and
   tachypnea; likely has component of pulmonary edema contributing to
   ventilator dependence, will try adding low dose metoprolol 2.5mg IV x1
   this morning as may have component of rate dependent edema.
 HYPOTENSION -> most likely [**3-6**] infection (UTI, aspiration pneumonia);
   [**Last Name (un) 45**] stim negative;
   -will try to hold off on IVF boluses today given evidence of pulmonary
   edema
   -bolus for low urine output, MAP <60
 CARDIAC ARREST -> PEA arrest on the floor resuscitated with atropine,
   epi and chest compressions.  Most likely cause at this time seems to be
   vagal stimulation in setting of aspiration and underlying UTI.
   Currently in sinus rhythm.
   -continue with management  as above
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 most likely [**3-6**] infection,
   hypotension and sedatives for intubation; Continue to correct
   hypernatremia slowly.  Patient has been non-verbal since prior to this
   admission.
 HEMOPTYSIS
 currently seems to have resolved
 ANEMIA, Acute on CHRONIC
anemia of chronic disease, with some blood
   loss on transfer [**3-6**] hemoptysis.  Transfused 1 unit PRBC yesterday, HCT
   this AM of 24.5
   -recheck HCT this pm and transfuse if continuing to trend down.
 DYSPHAGIA: NPO including medications;  pt with food particles
   suctioned from trachea on intubation, high suspicion for aspiration
   event leading to PEA arrest.
   -G-tube in place; high aspiration risk
 HYPERNATREMIA (HIGH SODIUM)
 continue to treat with free water
   flushes with tube feeds.
   -recent h/o C.diff colitis
 has been treated with po vanc, continue
   for now attempt to define course
   # COPD: continue nebs and treat PNA. Holding off on steroid for now
   given no active wheezing and O2 at 2L which she uses at night while
   mouth breaths.
   # DM II:  continue humalog sliding scale, follow fingersticks and
   adjust prn
   # Hypothyroidism:   continue levothyroxine
   # FEN: restart tube feeds, replete lytes PRN, treat hypernatremia with
   free water boluses.
   ICU Care
   Nutrition:
   Glycemic Control:  humalog sliding scale
   Lines: L IJ placed [**2-25**]
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: lansoprazole
   VAP:  hob elevated to 30degrees, mouth care per ICU protocol
   Comments:
   Communications: With daughter [**Name (NI) 84**], HCP
   [**Name (NI) 66**] status: Do not resuscitate (DNR) No shocks or CPR. already
   intubated. pressors OK.(discussed with [**Doctor First Name 65**] who is HCP)
   Palliative care following
   Disposition: ICU

2156-02-26 11:11:00 Physician Attending Progress Note
Chief Complaint: s/p cardiac arrest, respiratory failure, aspiration
   pneumonia, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Urine culture with klebsiella. LENI done; results pending. Afebrile.
   Received fluid resuscitation yesterday. Urine output increased to 40-80
   cc/hour through the night.
   Continues on ventilator. Failed RSBI this AM with drop in oxygen
   saturations.
    CVP 11 this AM.
   24 Hour Events:
 ULTRASOUND - At [**2156-2-25**] 11:23 AM
   lenis done at bedside
 MULTI LUMEN - STOP [**2156-2-25**] 03:14 PM
 EKG - At [**2156-2-25**] 03:21 PM
 MULTI LUMEN - START [**2156-2-26**] 02:13 AM
   site cleaned and dressing changed.
   History obtained from Medical records
   Patient unable to provide history: Intubated
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Base
   Unknown;
   Lactose Intolerance (Oral) (Lactase)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2156-2-25**] 08:00 AM
   Cefipime - [**2156-2-25**] 06:00 PM
   Metronidazole - [**2156-2-26**] 05:58 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 12.5 mcg/hour
   Other ICU medications:
   Other medications:
   PPI
   Iron
   MVI
   calcium carbonate
   Vit D
   ASA
   Insulin
   Prosac
   synthroid
   Atrovent
   Clorhexidine
   Albuterol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-26**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 100 (68 - 134) bpm
   BP: 112/45(61){91/40(55) - 136/65(82)} mmHg
   RR: 16 (11 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 43.6 kg (admission): 40.4 kg
   Height: 59 Inch
   CVP: 12 (4 - 15)mmHg
   Total In:
                                                                  6,042 mL
                                                                  1,755 mL
   PO:
   TF:
   IVF:
                                                                  5,262 mL
                                                                  1,635 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    477 mL
                                                                    625 mL
   Urine:
                                                                    477 mL
                                                                    625 mL
   NG:
                                                                    405 mL
                                                                    120 mL
   Stool:
   Drains:
   Balance:
                                                                  5,565 mL
                                                                  1,130 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 751 (570 - 751) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///19/
   Ve: 15.7 L/min
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) Pupils dilated, No(t) Conjunctiva pale, No(t)
   Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, No(t) OG tube
   Cardiovascular: (PMI Normal), (S2: Distant), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic), Distant heart sounds.
   No gallop or murmur.
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Crackles : , No(t) Bronchial: , Wheezes : , Diminished: , No(t)
   Absent : , No(t) Rhonchorous: ), Intubated. Diffuse coarse rales
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG
   Extremities: Right: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   299 K/uL
   90 mg/dL
   0.6 mg/dL
   19 mEq/L
   3.6 mEq/L
   22 mg/dL
   117 mEq/L
   143 mEq/L
   24.2 %
   12.1 K/uL
        [image002.jpg]
                             [**2156-2-24**]  03:54 PM
                             [**2156-2-24**]  04:03 PM
                             [**2156-2-24**]  05:45 PM
                             [**2156-2-24**]  08:34 PM
                             [**2156-2-25**]  04:33 AM
                             [**2156-2-25**]  03:41 PM
                             [**2156-2-26**]  04:14 AM
   WBC
   20.6
   13.5
   12.1
   Hct
   26.4
   24.3
   22.5
   23.5
   24.2
   Plt
   379
   329
   299
   Cr
   0.8
   0.7
   0.7
   0.6
   TropT
   0.13
   0.12
   0.10
   TCO2
   23
   25
   Glucose
   108
   150
   157
   90
   Other labs: PT / PTT / INR:12.8/28.8/1.1, CK / CKMB /
   Troponin-T:662/13/0.10, ALT / AST:43/42, Alk Phos / T Bili:69/0.2,
   Amylase / Lipase:111/23, Differential-Neuts:85.2 %, Band:Units: %
   Range: 0-5 %, Lymph:10.1 %, Mono:4.6 %, Eos:0.1 %, Lactic Acid:1.1
   mmol/L, Albumin:2.4 g/dL, LDH:399 IU/L, Mg++:1.7 mg/dL, PO4:1.8 mg/dL
   Imaging: CXR: Possible retrocardiac density. Peripheral opacity right
   upper zone. Increased interstitial markings. ETT position okay.
   Compared to [**2-25**], more prominent interstitial markings.
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name **])
   P:F ratio on transfer <200
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ANEMIA, CHRONIC
 HYPOTENSION (NOT SHOCK)
 ANEMIA, OTHER
 DYSPHAGIA
   G-tube in place; high aspiration risk
 CARDIAC ARREST
   PEA arrest
 HEMOPTYSIS
   HYPOTENSION
 HYPERNATREMIA (HIGH SODIUM)
   Remains on ventilator. CXR shows increased interstitial edema likely
   related to the fluids given to sustain BP and urine output yesterday.
   During exam, patient became somewhat agitated and HR went to 135 with
   increase hypoxemia. Concern that without her beta blocker, she is
   getting tachycardic and leading to increased pulmonary capillary wedge
   pressures in the setting of diastolic dysfunction. If BP stable today
   with acceptable urine output, would try to re-initiate beta blocker.
   Try to avoid fluid boluses of crystalloid today. Keep fluid balance
   even to slightly negative.
   Continue antibiotics for pneumonia and UTI. Afebrile.
   No further hemoptysis.
   Hct stable. Not at transfusion threshold at this time.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2156-2-26**] 02:13 AM
   Prophylaxis:
   DVT: Boots, LMW Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2156-02-27 06:44:00 Physician Resident Progress Note
Chief Complaint: PEA Arrest, intubated on the floor
   24 Hour Events:
   LENIs--read still pending
   1L+, got lasix 20 IV+40 IV
   Started trial of metoprolol IV; was fine; started half her home dose of
   PO metoprolol
   Hct was 22.2, got 1 U PRBCs
   FiO2 went from 0.5 to 0.6, trying to go down to 0.5 again
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Base
   Unknown;
   Lactose Intolerance (Oral) (Lactase)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2156-2-26**] 11:49 AM
   Cefipime - [**2156-2-26**] 07:37 PM
   Metronidazole - [**2156-2-27**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 12.5 mcg/hour
   Other ICU medications:
   Other medications:
   Metoprolol 12.5 [**Hospital1 **], Heparin SQ, atrovent, albuterol, lansoprazole,
   iron, calcium, MTV, Vit D, ASA 81, fluoxetine, levothyroxine
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: none
   Flowsheet Data as of  [**2156-2-27**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.8
C (98.3
   HR: 105 (71 - 119) bpm
   BP: 116/52(65){91/40(54) - 147/61(100)} mmHg
   RR: 16 (12 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 43.6 kg (admission): 40.4 kg
   Height: 59 Inch
    CVP: 4 (4 - 12)mmHg
   Total In:
                                                                  3,382 mL
                                                                    944 mL
   PO:
   TF:
                                                                    226 mL
                                                                    266 mL
   IVF:
                                                                  2,572 mL
                                                                    179 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,905 mL
                                                                  2,170 mL
   Urine:
                                                                  2,905 mL
                                                                  2,170 mL
   NG:
                                                                    210 mL
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                    477 mL
                                                                 -1,226 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 543 (515 - 751) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 45
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ///23/
   Ve: 9.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   323 K/uL
   9.9 g/dL
   120 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.6 mEq/L
   18 mg/dL
   110 mEq/L
   142 mEq/L
   29.2 %
   12.2 K/uL
        [image002.jpg]
                             [**2156-2-24**]  03:54 PM
                             [**2156-2-24**]  04:03 PM
                             [**2156-2-24**]  05:45 PM
                             [**2156-2-24**]  08:34 PM
                             [**2156-2-25**]  04:33 AM
                             [**2156-2-25**]  03:41 PM
                             [**2156-2-26**]  04:14 AM
                             [**2156-2-26**]  03:36 PM
                             [**2156-2-27**]  04:40 AM
   WBC
   20.6
   13.5
   12.1
   12.2
   Hct
   26.4
   24.3
   22.5
   23.5
   24.2
   22.2
   29.2
   Plt
   379
   329
   299
   323
   Cr
   0.8
   0.7
   0.7
   0.6
   0.8
   TropT
   0.13
   0.12
   0.10
   TCO2
   23
   25
   Glucose
   108
   150
   157
   90
   120
   Other labs: PT / PTT / INR:12.8/28.8/1.1, CK / CKMB /
   Troponin-T:662/13/0.10, ALT / AST:37/27, Alk Phos / T Bili:110/0.5,
   Amylase / Lipase:111/23, Differential-Neuts:76.0 %, Band:Units: %
   Range: 0-5 %, Lymph:17.0 %, Mono:5.0 %, Eos:Units: %
   Range: 0-4 %, Lactic Acid:1.1 mmol/L, Albumin:2.4 g/dL, LDH:399 IU/L,
   Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Micro:
   [**2-25**] Urine 10,000-100,000 yeast
   [**2-24**] Blood Cx: NGTD
   [**2-23**] C.diff: neg
   [**2-22**] Urine: klebsiella
   Radiology:
   [**2-27**] CXR:
   The ET tube tip is 4.8 cm above the carina.  The left internal jugular
   line
   tip is at the cavoatrial junction.  There is no change in the
   cardiomediastinal silhouette.  There is overall improvement in bilatera
   l
   perihilar and upper lung opacities suggesting resolution of underlying
   pulmonary edema.
   Assessment and Plan
   [**Age over 90 52**] yo F with DMII, PVD, COPD, frequent UTI
s p/w hypotension, fever,
   AMS, Klebsiella [**Hospital **] transferred to ICU following PEA arrest and
   intubation on the floor.
 Hypoxic respiratory failure:  most likely [**3-6**] combination of
   aspiration pneumonia/pneumonitis and pulmonary edema in setting of PEA
   arrest.  ABG on admission to ICU c/w ARDS with P:F <200.  She has been
   improving daily in terms of ventillatory requirements, RSBI this
   morning favorable for extubation.  She tolerated diuresis to -1.2 L
   overnight and is now back on beta blocker.
   -plan to extubate today after giving additional 12.5mg of po metoprolol
   (to come up to home dose), also additional diuresis prior to extubation
   with 40IV of lasix
   -continue with broad spectrum abx coverage of vanc, cefepime, flagyl
   which covers for aspiration pneumonia and Klebsiella UTI
 HYPOTENSION -> most likely [**3-6**] infection (UTI, aspiration pneumonia);
   [**Last Name (un) 45**] stim negative;
   -will try to hold off on IVF boluses today given evidence of pulmonary
   edema
   -bolus for low urine output, MAP <60
 CARDIAC ARREST -> PEA arrest on the floor resuscitated with atropine,
   epi and chest compressions.  Most likely cause at this time seems to be
   vagal stimulation in setting of aspiration and underlying UTI.
   Currently in sinus rhythm.
   -continue with management  as above
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 most likely [**3-6**] infection,
   hypotension and sedatives for intubation; Continue to correct
   hypernatremia slowly.  Patient has been non-verbal since prior to this
   admission.
 HEMOPTYSIS
 currently seems to have resolved
 ANEMIA, Acute on CHRONIC
anemia of chronic disease, with some blood
   loss on transfer [**3-6**] hemoptysis.  Transfused 1 unit PRBC yesterday, HCT
   this AM of 24.5
   -recheck HCT this pm and transfuse if continuing to trend down.
 DYSPHAGIA: NPO including medications;  pt with food particles
   suctioned from trachea on intubation, high suspicion for aspiration
   event leading to PEA arrest.
   -G-tube in place; high aspiration risk
 HYPERNATREMIA (HIGH SODIUM)
 continue to treat with free water
   flushes with tube feeds.
   -recent h/o C.diff colitis
 has been treated with po vanc, continue
   for now attempt to define course
   # COPD: continue nebs and treat PNA. Holding off on steroid for now
   given no active wheezing and O2 at 2L which she uses at night while
   mouth breaths.
   # DM II:  continue humalog sliding scale, follow fingersticks and
   adjust prn
   # Hypothyroidism:   continue levothyroxine
   # FEN: restart tube feeds, replete lytes PRN, treat hypernatremia with
   free water boluses.
   ICU Care
   Nutrition:
   Glycemic Control:  humalog sliding scale
   Lines: L IJ placed [**2-25**]
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: lansoprazole
   VAP:  hob elevated to 30degrees, mouth care per ICU protocol
   Comments:
   Communications: With daughter [**Name (NI) 84**], HCP
   [**Name (NI) 66**] status: Do not resuscitate (DNR) No shocks or CPR. already
   intubated. pressors OK.(discussed with [**Doctor First Name 65**] who is HCP)
   Palliative care following
   Disposition: ICU

2156-02-27 09:58:00 Physician Attending Progress Note
Chief Complaint: s/p cardiac arrest, respiratory failure, tachycardia,
   diastolic CHF-chronic
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Started on metoprolol yesterday. Received lasix overnight to try to
   achieve negative fluid balance. BP has been stable despite diuresis.
   Was transfused for hct=22. LENI results are still pending. CVP=4 this
   AM.
   SBT this AM with RSBI 45
   Moderate oral secretions.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Intubated and ventilated
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Base
   Unknown;
   Lactose Intolerance (Oral) (Lactase)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2156-2-26**] 07:37 PM
   Metronidazole - [**2156-2-27**] 06:00 AM
   Vancomycin - [**2156-2-27**] 09:03 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 12.5 mcg/hour
   Other ICU medications:
   Other medications:
   Iron, calcium, MVI, vit D, ASA, insulin, prosac, thyroxine,
   chlorhexidine, albuterol, heparin sc, metoprolol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-27**] 09:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 104 (71 - 119) bpm
   BP: 120/47(65){96/40(54) - 147/61(100)} mmHg
   RR: 20 (13 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 43.6 kg (admission): 40.4 kg
   Height: 58 Inch
   CVP: 5 (4 - 261)mmHg
   Total In:
                                                                  3,382 mL
                                                                  1,235 mL
   PO:
   TF:
                                                                    226 mL
                                                                    243 mL
   IVF:
                                                                  2,572 mL
                                                                    362 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,905 mL
                                                                  2,490 mL
   Urine:
                                                                  2,905 mL
                                                                  2,490 mL
   NG:
                                                                    210 mL
                                                                    630 mL
   Stool:
   Drains:
   Balance:
                                                                    477 mL
                                                                 -1,255 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 570 (515 - 602) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 45
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: ///23/
   Ve: 14.2 L/min
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) Pupils dilated, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: No(t) Normal, Distant,
   No(t) Loud, No(t) Widely split , No(t) Fixed), No(t) S3, No(t) S4,
   No(t) Rub, (Murmur: Systolic, No(t) Diastolic), PMI diffuse. Systolic
   murmur I/VI --softer than previously.
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   Few, No(t) Bronchial: , Wheezes : I/E=[**2-5**], No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing, [**2-4**]+ edema of the thighs
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   323 K/uL
   120 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.6 mEq/L
   18 mg/dL
   110 mEq/L
   142 mEq/L
   29.2 %
   12.2 K/uL
        [image002.jpg]
                             [**2156-2-24**]  03:54 PM
                             [**2156-2-24**]  04:03 PM
                             [**2156-2-24**]  05:45 PM
                             [**2156-2-24**]  08:34 PM
                             [**2156-2-25**]  04:33 AM
                             [**2156-2-25**]  03:41 PM
                             [**2156-2-26**]  04:14 AM
                             [**2156-2-26**]  03:36 PM
                             [**2156-2-27**]  04:40 AM
   WBC
   20.6
   13.5
   12.1
   12.2
   Hct
   26.4
   24.3
   22.5
   23.5
   24.2
   22.2
   29.2
   Plt
   379
   329
   299
   323
   Cr
   0.8
   0.7
   0.7
   0.6
   0.8
   TropT
   0.13
   0.12
   0.10
   TCO2
   23
   25
   Glucose
   108
   150
   157
   90
   120
   Other labs: PT / PTT / INR:13.9/29.3/1.2, CK / CKMB /
   Troponin-T:662/13/0.10, ALT / AST:37/27, Alk Phos / T Bili:110/0.5,
   Amylase / Lipase:111/23, Differential-Neuts:76.0 %, Band:Units: %
   Range: 0-5 %, Lymph:17.0 %, Mono:5.0 %, Eos:Units: %
   Range: 0-4 %, Lactic Acid:1.1 mmol/L, Albumin:2.4 g/dL, LDH:399 IU/L,
   Ca++:8.9, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR today: some improvement in interstitial edema compared to
   yesterday. Persistent density at left base obscuring left
   hemi-diaphragm.
   Microbiology: Urine: 10-100,000 yeast
   Blood: no growth
   C Diff negative.
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name **])
   P:F ratio on transfer <200
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ANEMIA, CHRONIC
 HYPOTENSION (NOT SHOCK)
 ANEMIA, OTHER
 DYSPHAGIA
   G-tube in place; high aspiration risk
 CARDIAC ARREST
   PEA arrest
 HEMOPTYSIS
   COPD
   CHF-DIASTOLIC-CHRONIC
   Patient has improved with diuresis and metoprolol. Hemodynamics stable.
   Gas exchange still requiring FIO2=0.5 with reduction in PEEP. Prolonged
   expiratory phase persists. Patient on bronchodilators. Also continues
   on antibiotics for presumed aspiration pneumonia. Sedation and tube
   feedings have been stopped. Will reassess early this afternoon for
   possible extubation.
   Would increase beta blocker further in anticipation of sympathetic
   discharge with extubation. With her diarstolic dysfunction, she doesn't
   tolerate tachycardia well.
   Patient's hct responded appropriately to transfusion.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2156-2-26**] 02:13 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2156-02-28 07:16:00 Physician Resident Progress Note
Chief Complaint: PEA arrest intubated on the floor
   24 Hour Events:
   -extubated yesterday to BIPAP, daughter decided that she would want
   re-intubation if necessary
   -given Lasix 40IV x2 (last dose yest AM) prior to extubation, continued
   to autodiurese throughout the day to -4.5L yesterday
   -metoprolol increased to home dose of 25mg [**Hospital1 **], continued to be
   borderline tachycardic, with good BP
   -LENI's were negative for DVT
 INVASIVE VENTILATION - STOP [**2156-2-27**] 02:00 PM
 NON-INVASIVE VENTILATION - START [**2156-2-27**] 02:45 PM
   Patient unable to provide history: Encephalopathy
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Base
   Unknown;
   Lactose Intolerance (Oral) (Lactase)
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2156-2-27**] 06:00 AM
   Vancomycin - [**2156-2-27**] 09:03 AM
   Cefipime - [**2156-2-27**] 08:07 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2156-2-27**] 10:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-28**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.2
C (97.1
   HR: 99 (84 - 114) bpm
   BP: 133/55(71){99/40(55) - 206/89(115)} mmHg
   RR: 18 (18 - 30) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 43.6 kg (admission): 40.4 kg
   Height: 58 Inch
    CVP: -8 (-9 - 9)mmHg
   Total In:
                                                                  1,699 mL
                                                                    263 mL
   PO:
   TF:
                                                                    243 mL
                                                                     91 mL
   IVF:
                                                                    706 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                  6,280 mL
                                                                    740 mL
   Urine:
                                                                  6,280 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,581 mL
                                                                   -477 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Spontaneous): 580 (428 - 580) mL
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   FiO2: 70%
   SpO2: 91%
   ABG: ///27/
   Ve: 5.7 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, nasal trumpet in place, dry
   mm, facemask inplace
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic), irregularly irregular
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   Bilaterally, throughout Greated at the bases, No(t) Wheezes : ), good
   air entry
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Responds to: Verbal stimuli, No(t) Oriented
   (to): , Movement: Purposeful, Tone: Not assessed, not following
   commands
   Labs / Radiology
   319 K/uL
   9.9 g/dL
   87 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.0 mEq/L
   16 mg/dL
   106 mEq/L
   143 mEq/L
   30.4 %
   12.1 K/uL
        [image002.jpg]
                             [**2156-2-24**]  04:03 PM
                             [**2156-2-24**]  05:45 PM
                             [**2156-2-24**]  08:34 PM
                             [**2156-2-25**]  04:33 AM
                             [**2156-2-25**]  03:41 PM
                             [**2156-2-26**]  04:14 AM
                             [**2156-2-26**]  03:36 PM
                             [**2156-2-27**]  04:40 AM
                             [**2156-2-27**]  03:38 PM
                             [**2156-2-28**]  05:21 AM
   WBC
   20.6
   13.5
   12.1
   12.2
   12.1
   Hct
   26.4
   24.3
   22.5
   23.5
   24.2
   22.2
   29.2
   28.8
   30.4
   Plt
   379
   329
   299
   323
   319
   Cr
   0.8
   0.7
   0.7
   0.6
   0.8
   0.7
   TropT
   0.13
   0.12
   0.10
   TCO2
   25
   Glucose
   108
   150
   157
   90
   120
   87
   Other labs: PT / PTT / INR:15.2/34.9/1.3, CK / CKMB /
   Troponin-T:662/13/0.10, ALT / AST:37/27, Alk Phos / T Bili:110/0.5,
   Amylase / Lipase:111/23, Differential-Neuts:76.0 %, Band:Units: %
   Range: 0-5 %, Lymph:17.0 %, Mono:5.0 %, Eos:Units: %
   Range: 0-4 %, Lactic Acid:1.1 mmol/L, Albumin:2.4 g/dL, LDH:399 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name **]):
   Pt is now extubated.  On high flow mask sats have been in the low 90s,
   with desaturations to the 80s with turning and other activity.  She has
   required intermittent noninvasive CPAP, which she has tolerated fairly
   well and saturations improve.
   -          continue to montor sats and use CPAP as needed
   -          diurese with goal negative 1 liter
   -          continue broad spectrum antibiotiv coverage with flagyl,
   vanc, and cefepime
 ALTERED MENTAL STATUS (NOT DELIRIUM): Appears to be at BL according
   to family
   -          continue to monitor
   -          if focal deficit consider imaging
 ANEMIA, CHRONIC: hct stable
   - continue to monitort daily hct
 HYPOTENSION (NOT SHOCK): resolved.  Pt
s pressures have been stable
   all day.
   - continue to monitor
 Hx of C. Diff colitis
   - continue PO vanco
 DYSPHAGIA: G-tube in place; high aspiration risk
   -          continue to treat for aspiration PNA
   -          as tube feed are restarted watch for signs of repeat
   aspiration
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2156-2-28**] 02:37 AM 20 mL/hour
   Glycemic Control:  HISS
   Lines:
   Multi Lumen - [**2156-2-26**] 02:13 AM
   Prophylaxis:
   DVT: SD heparin
   Stress ulcer: lansopprazole
   VAP:  flagyl, vanco, cefipime
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: MICU

2156-02-28 11:49:00 Physician Attending Progress Note
Chief Complaint: S/P PEA arrest
   HPI:
   [**Age over 90 52**] year old female transfered from floor for PEA arrest
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2156-2-27**] 02:00 PM
 NON-INVASIVE VENTILATION - START [**2156-2-27**] 02:45 PM
   Extubated yesterday...would want re-intubated though DNR
   Received lasix yesterday, metoprolol increased
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Base
   Unknown;
   Lactose Intolerance (Oral) (Lactase)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2156-2-27**] 08:07 PM
   Metronidazole - [**2156-2-28**] 08:00 AM
   Vancomycin - [**2156-2-28**] 10:18 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Multivitamin
   Insulin
   Prozac
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-28**] 11:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 87 (85 - 114) bpm
   BP: 149/64(85){99/40(55) - 206/89(115)} mmHg
   RR: 26 (18 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 43.6 kg (admission): 40.4 kg
   Height: 58 Inch
   CVP: 7 (-13 - 10)mmHg
   Total In:
                                                                  1,699 mL
                                                                    702 mL
   PO:
   TF:
                                                                    243 mL
                                                                    118 mL
   IVF:
                                                                    706 mL
                                                                    464 mL
   Blood products:
   Total out:
                                                                  6,280 mL
                                                                  1,060 mL
   Urine:
                                                                  6,280 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,581 mL
                                                                   -358 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Spontaneous): 1,334 (428 - 1,334) mL
   PS : 5 cmH2O
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 80%
   PIP: 9 cmH2O
   SpO2: 99%
   ABG: ///27/
   Ve: 5.7 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.9 g/dL
   319 K/uL
   87 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.0 mEq/L
   16 mg/dL
   106 mEq/L
   143 mEq/L
   30.4 %
   12.1 K/uL
        [image002.jpg]
                             [**2156-2-24**]  04:03 PM
                             [**2156-2-24**]  05:45 PM
                             [**2156-2-24**]  08:34 PM
                             [**2156-2-25**]  04:33 AM
                             [**2156-2-25**]  03:41 PM
                             [**2156-2-26**]  04:14 AM
                             [**2156-2-26**]  03:36 PM
                             [**2156-2-27**]  04:40 AM
                             [**2156-2-27**]  03:38 PM
                             [**2156-2-28**]  05:21 AM
   WBC
   20.6
   13.5
   12.1
   12.2
   12.1
   Hct
   26.4
   24.3
   22.5
   23.5
   24.2
   22.2
   29.2
   28.8
   30.4
   Plt
   379
   329
   299
   323
   319
   Cr
   0.8
   0.7
   0.7
   0.6
   0.8
   0.7
   TropT
   0.13
   0.12
   0.10
   TCO2
   25
   Glucose
   108
   150
   157
   90
   120
   87
   Other labs: PT / PTT / INR:15.2/34.9/1.3, CK / CKMB /
   Troponin-T:662/13/0.10, ALT / AST:37/27, Alk Phos / T Bili:110/0.5,
   Amylase / Lipase:111/23, Differential-Neuts:76.0 %, Band:Units: %
   Range: 0-5 %, Lymph:17.0 %, Mono:5.0 %, Eos:Units: %
   Range: 0-4 %, Lactic Acid:1.1 mmol/L, Albumin:2.4 g/dL, LDH:399 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   1-       S/P PEA arrest likely secondary to aspiration
   2-       Respiratory Distress/aspiration pneumonia
   Plan: Continue antibiotics, continue to keep negative (lasix if
   needed), pulmonary toilet
   3-       Altered mental status: ? if baseline
 will
   4-       Hypotension: Resolved
   5-       C. diff
PO vanc
   6-       Hemoptysis: resolved
   7-        ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY,
   [**Doctor Last Name **])
   P:F ratio on transfer <200
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ANEMIA, CHRONIC
 HYPOTENSION (NOT SHOCK)
 ANEMIA, OTHER
 DYSPHAGIA
   G-tube in place; high aspiration risk
 CARDIAC ARREST
   PEA arrest
 HEMOPTYSIS
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2156-2-28**] 11:25 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2156-2-26**] 02:13 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent:

2156-02-29 09:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Goal negative 1L, after Lasix 20 mg IV x2 pt was -103 @ MN, and
   negative 439 @ 5AM
   - F/U CXR obtained yesterday afternoon showed interval improvement on
   the left, post-extubation.
   - Developed afib with RVR with rates to 140s.  Responded to Lopressor 5
   mg IV x2 with rates coming down to 90-100.
   - At 1 AM in the setting of RVR developed respiroatory distress on high
   flow O2 facemask with tachypnea to the 30s and sating 88%.  ABG
   obtained: 7.54/34/47.  Pt was given morphine 1 mg IV and placed on
   Noninvasive CPAP @ 60% FIO2 and sats rose to 100%.
   History obtained from Medical records, RN
   Patient unable to provide history: Unresponsive
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Base
   Unknown;
   Lactose Intolerance (Oral) (Lactase)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2156-2-28**] 10:18 AM
   Cefipime - [**2156-2-28**] 06:16 PM
   Metronidazole - [**2156-2-29**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-29**] 09:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.7
   HR: 144 (84 - 145) bpm
   BP: 185/88(124){110/43(62) - 185/88(124)} mmHg
   RR: 29 (19 - 35) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 43.6 kg (admission): 40.4 kg
   Height: 58 Inch
    CVP: 9 (-7 - 20)mmHg
   Total In:
                                                                  3,092 mL
                                                                  1,091 mL
   PO:
   TF:
                                                                  1,242 mL
                                                                    402 mL
   IVF:
                                                                    890 mL
                                                                    189 mL
   Blood products:
   Total out:
                                                                  3,195 mL
                                                                  1,070 mL
   Urine:
                                                                  3,195 mL
                                                                  1,070 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -103 mL
                                                                     21 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 569 (440 - 1,334) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 95%
   PIP: 11 cmH2O
   SpO2: 90%
   ABG: 7.54/34/47/32/6
   Ve: 10.8 L/min
   PaO2 / FiO2: 49
   Physical Examination
   General Appearance: Anxious, Diaphoretic
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic,
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Paradoxical), (Breath Sounds: Crackles
   : , Bronchial: , Wheezes : ), use of accessory muscles, expiratory
   moaning/grunting
   Abdominal: Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed, awake but not interactive
   Labs / Radiology
   392 K/uL
   10.2 g/dL
   268 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.1 mEq/L
   20 mg/dL
   99 mEq/L
   137 mEq/L
   30.3 %
   13.9 K/uL
        [image002.jpg]
                             [**2156-2-25**]  04:33 AM
                             [**2156-2-25**]  03:41 PM
                             [**2156-2-26**]  04:14 AM
                             [**2156-2-26**]  03:36 PM
                             [**2156-2-27**]  04:40 AM
                             [**2156-2-27**]  03:38 PM
                             [**2156-2-28**]  05:21 AM
                             [**2156-2-28**]  06:13 PM
                             [**2156-2-29**]  01:16 AM
                             [**2156-2-29**]  05:18 AM
   WBC
   13.5
   12.1
   12.2
   12.1
   13.9
   Hct
   22.5
   23.5
   24.2
   22.2
   29.2
   28.8
   30.4
   30.3
   Plt
   329
   299
   323
   319
   392
   Cr
   0.7
   0.7
   0.6
   0.8
   0.7
   0.8
   TropT
   0.10
   TCO2
   30
   30
   Glucose
   150
   157
   90
   120
   87
   268
   Other labs: PT / PTT / INR:15.4/41.4/1.4, CK / CKMB /
   Troponin-T:662/13/0.10, ALT / AST:37/27, Alk Phos / T Bili:110/0.5,
   Amylase / Lipase:111/23, Differential-Neuts:76.0 %, Band:Units: %
   Range: 0-5 %, Lymph:17.0 %, Mono:5.0 %, Eos:Units: %
   Range: 0-4 %, Lactic Acid:1.1 mmol/L, Albumin:2.4 g/dL, LDH:399 IU/L,
   Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name **])
   P:F ratio on transfer <200, has recently increased above 300 but
   decreasing today. Treat pneumonia w IV vanco, cefipime, metronidazole.
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   [**Month (only) 60**] be at baseline. Interactivity is not significant. If reversible, it
   will be from treatment of ARDS and anemia.
 ANEMIA, CHRONIC
   Stable
 HYPOTENSION (NOT SHOCK)
   More hypertension than hypotension lately; in setting of RVR, would
   increase metopropol to TID dosing, BPs should tolerate.
 DYSPHAGIA
   G-tube in place; high aspiration risk; monitor closely if extubated
 CARDIAC ARREST
   S/P PEA arrest. No recent arrhythmias; repleting lytes closely; today
   will aggressively replete K in face of K of 3.1.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2156-2-28**] 11:43 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2156-2-26**] 02:13 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: daughter called this am
briefly instructed us
   to intubate if pt decompensates before she arrives, is coming in to the
   hospital ASAP
will have goals of care discussion with attg today
   Code status: DNR / DNI
   Disposition:

2156-02-29 11:07:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Had diuresis yesterday and was doing well however at approximately
   7:00 AM developed respiratory distress and tachycardia with increased
   secretions/sputum
   - Had a. fib with RVR
   History obtained from Medical records
   Patient unable to provide history: Dementia/Decreased LOC
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Base
   Unknown;
   Lactose Intolerance (Oral) (Lactase)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2156-2-28**] 06:16 PM
   Metronidazole - [**2156-2-29**] 06:00 AM
   Vancomycin - [**2156-2-29**] 09:38 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Med list reviewed
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-29**] 11:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.7
   HR: 100 (84 - 145) bpm
   BP: 185/88(124){110/43(62) - 185/88(124)} mmHg
   RR: 29 (19 - 35) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 43.6 kg (admission): 40.4 kg
   Height: 58 Inch
   CVP: 9 (7 - 20)mmHg
   Total In:
                                                                  3,092 mL
                                                                  1,282 mL
   PO:
   TF:
                                                                  1,242 mL
                                                                    406 mL
   IVF:
                                                                    890 mL
                                                                    256 mL
   Blood products:
   Total out:
                                                                  3,195 mL
                                                                  1,260 mL
   Urine:
                                                                  3,195 mL
                                                                  1,260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -103 mL
                                                                     22 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 510 (440 - 569) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.54/34/47/32/6
   Ve: 13.9 L/min
   PaO2 / FiO2: 94
   Physical Examination
   General Appearance: Respiratory Distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.2 g/dL
   392 K/uL
   268 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.1 mEq/L
   20 mg/dL
   99 mEq/L
   137 mEq/L
   30.3 %
   13.9 K/uL
        [image002.jpg]
                             [**2156-2-25**]  04:33 AM
                             [**2156-2-25**]  03:41 PM
                             [**2156-2-26**]  04:14 AM
                             [**2156-2-26**]  03:36 PM
                             [**2156-2-27**]  04:40 AM
                             [**2156-2-27**]  03:38 PM
                             [**2156-2-28**]  05:21 AM
                             [**2156-2-28**]  06:13 PM
                             [**2156-2-29**]  01:16 AM
                             [**2156-2-29**]  05:18 AM
   WBC
   13.5
   12.1
   12.2
   12.1
   13.9
   Hct
   22.5
   23.5
   24.2
   22.2
   29.2
   28.8
   30.4
   30.3
   Plt
   329
   299
   323
   319
   392
   Cr
   0.7
   0.7
   0.6
   0.8
   0.7
   0.8
   TropT
   0.10
   TCO2
   30
   30
   Glucose
   150
   157
   90
   120
   87
   268
   Other labs: PT / PTT / INR:15.4/41.4/1.4, CK / CKMB /
   Troponin-T:662/13/0.10, ALT / AST:37/27, Alk Phos / T Bili:110/0.5,
   Amylase / Lipase:111/23, Differential-Neuts:76.0 %, Band:Units: %
   Range: 0-5 %, Lymph:17.0 %, Mono:5.0 %, Eos:Units: %
   Range: 0-4 %, Lactic Acid:1.1 mmol/L, Albumin:2.4 g/dL, LDH:399 IU/L,
   Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   1) Pnuemonia/respiratory distress ACUTE RESPIRATORY DISTRESS SYNDROME
   (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name **])
       Plan: - Continue bipap as a temporizing measure pending family
   discussion of goals of care.  If family wishes to continue full
   care/full code, then will intubate and place on mechanical ventilation
   if needed
                - Continue Cefepime, Vancomycin
   2)  Atrial Fibrillation with RVR
       Plan: Treat underlying respiratory problem
                 Metoprolol
   3)  ALTERED MENTAL STATUS (NOT DELIRIUM)
        - unclear
   4)  S/P PEA arrest likely secondary aspiration
   5)  Dysphagia
      Plan: G-tube in place; high aspiration risk
   6) ANEMIA, CHRONIC
   Addendum: Discussed goals of care with the family.  At this point, if
   patient requires would re-intubate but does not want long-term care
   such as tracheostomy.  Also, if same situation arose again (extubated
   but then decompensated), would not want to re-intubate.  Continues do
   not resuscitate (CPR) status.  Will take patient off non-invasive
   ventilation and re-evaluate respiratory status.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2156-2-26**] 02:13 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : ICU
   Total time spent: 40 minutes (critical care time)

2156-03-01 07:56:00 Physician Resident Progress Note
[**Age over 90 52**]F with CAD, COPD, h/o stroke and recent C. difficile colitis
   presented with fever and altered mental status, found to have UTI now
   s/p PEA arrest in setting of likely aspiration
   24 Hour Events:
   Attg met with daughter who affirmed still going forward w aggressive
   intervention including intubation if needed
   Metoprolol increased to TID dosing [**3-6**] RVR
   Placed on BiPAP briefly
   20 lasix IV x2, negative 1L today
 NON-INVASIVE VENTILATION - START [**2156-2-29**] 08:30 AM
 EKG - At [**2156-2-29**] 12:44 PM
 NON-INVASIVE VENTILATION - STOP [**2156-2-29**] 01:12 PM
   Subjective Nonverbal
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Base
   Unknown;
   Lactose Intolerance (Oral) (Lactase)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2156-2-29**] 09:38 AM
   Cefipime - [**2156-2-29**] 06:00 PM
   Metronidazole - [**2156-3-1**] 06:00 AM
   Infusions:
   Other ICU medications:
   Chlorhexidine rinse
   Heparin SQ
   Other medications:
   Metoprolol 25 mg PO TID
   Fluoxetine
   Lansoprazole
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: Unable to answer
   Flowsheet Data as of  [**2156-3-1**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 107 (68 - 144) bpm
   BP: 141/61(81){104/36(54) - 185/88(124)} mmHg
   RR: 41 (22 - 41) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 43.6 kg (admission): 40.4 kg
   Height: 58 Inch
    CVP: 9 (6 - 12)mmHg
   Telemetry: Afib with RVR to 150
s, desats to 70
   Total In:
                                                                  2,306 mL
                                                                    239 mL
   PO:
                                 TF:
                                                                    406 mL
   IVF:
                                                                  1,140 mL
                                                                    179 mL
   Blood products:
   Total out:
                                                                  3,390 mL
                                                                    370 mL
   Urine:
                                                                  3,390 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,084 mL
                                                                   -131 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: Standby
   Vt (Spontaneous): 776 (510 - 776) mL
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 97%
   ABG: ///29/
   Ve: 13.9 L/min
   Physical Examination
   General Appearance: Thin, chronically ill appearing
   Neck : L central line in place, no erythema or purulence
   Cardiovascular: Tachycardic S1 S2 no m/r/g appreciated
   Respiratory / Chest: Bronchial breath sounds bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Warm, no edema
   Neurologic: PEARL, blinks to threat, not following commands, not verbal
   Labs / Radiology
   528 K/uL
   11.5 g/dL
   107 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.9 mEq/L
   20 mg/dL
   98 mEq/L
   139 mEq/L
   34.6 %
   21.4 K/uL
        [image002.jpg]
   Fingersticks: 151-228
   Micro:
   [**2-25**] femoral catheter tip cx negative
   [**2-25**] urine cx yeast
   [**2-24**] blood cx negative
   [**2-22**] blood cx negative
   [**2-22**] urine K. pneumoniae >100,000 resistant to cipro, nitrofurantoin.
   Otherwise S (incl. cefepime and meropenem)
   CXR: Minimal improvement of bilateral infiltrates.  Otherwise
   unchanged.
                             [**2156-2-26**]  04:14 AM
                             [**2156-2-26**]  03:36 PM
                             [**2156-2-27**]  04:40 AM
                             [**2156-2-27**]  03:38 PM
                             [**2156-2-28**]  05:21 AM
                             [**2156-2-28**]  06:13 PM
                             [**2156-2-29**]  01:16 AM
                             [**2156-2-29**]  05:18 AM
                             [**2156-2-29**]  04:28 PM
                             [**2156-3-1**]  05:00 AM
   WBC
   12.1
   12.2
   12.1
   13.9
   21.4
   Hct
   24.2
   22.2
   29.2
   28.8
   30.4
   30.3
   34.6
   Plt
   299
   323
   319
   392
   528
   Cr
   0.6
   0.8
   0.7
   0.8
   0.7
   0.8
   TCO2
   30
   30
   Glucose
   90
   120
   87
   [**Telephone/Fax (3) 330**]
   Other labs: PT / PTT / INR:15.5/31.6/1.4, CK / CKMB /
   Troponin-T:662/13/0.10, ALT / AST:37/27, Alk Phos / T Bili:110/0.5,
   Amylase / Lipase:111/23, Differential-Neuts:76.0 %, Band:Units: %
   Range: 0-5 %, Lymph:17.0 %, Mono:5.0 %, Eos:Units: %
   Range: 0-4 %, Lactic Acid:1.1 mmol/L, Albumin:2.4 g/dL, LDH:399 IU/L,
   Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 Leukocytosis
   WBC increased from 13.9 to 21.4 today.  Patient with multiple
   infectious sources including pneumonia, UTI, also with recent C.
   difficile colitis (though no diarrhea recently).  Does have left
   central line as well. Noninfectious etiologies of fever and
   leukocytosis such as PE, drug fever, adrenal insufficiency seem less
   likely at this time. Recently had LENIs negative for DVT.
   --Repeat blood and urine cultures
   --Broaden gram negative coverage to meropenem to cover more highly
   resistant gram negative pathogens
   --Check LFTs, amylase/lipase, follow up differential. Will hold off on
   pulling central line pending repeat blood cultures.
 h/o C. difficile colitis
   No diarrhea, abdomen nontender. Continue PO vancomycin and IV flagyl.
 Aspiration and dysphagia
   Uncertain if aspiration pneumonia versus pneumonitis. Will be broadly
   covered on meropenem.
   G-tube in place; high aspiration risk. Elevated HOB and continue mouth
   care.
 Urinary tract infection
   Klebsiella pneumonia isolated from urine at admission, should have been
   covered with cefepime. As patient still has foley possibility for
   treatment failure or recurrent UTI exists. Repeat urinalysis and urine
   cultures.  Change foley if UA positive.
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Poor status at baseline with added insult of infection and ?cerebral
   hypoxia from PEA arrest. Uncertain if this is new baseline. Will
   follow, treating infections. Holding off on LP at this time.
 Atrial fibrillation with RVR
   Continue metoprolol TID, increase further today. Continue to monitor on
   telemetry. No anticoagulation giving risk of bleeding.
Hypothyroidism
   Continue levothyroxine
 Diabetes
   Continue fingersticks with insulin sliding scale
 COPD, on 2L/min at home during night
   Continue albuterol PRN
 CAD
   Continue beta [**Last Name (LF) 368**], [**First Name3 (LF) 369**] 81mg daily
 CHF diastolic EF 60% 7/07
   Continue rate control with metoprolol. Goal net even today. Replete
   K>4, Magnesium>2
 Anemia
   Hct stable without active bleeding, follow
 Depression and anxiety
   Continue home sertraline
   ICU Care
   Nutrition: Tube feeds on hold secondary to high residuals.
   Glycemic Control:  Insulin sliding scale
   Lines:
   Multi Lumen - [**2156-2-26**] 02:13 AM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: Continue PPI
   VAP:  Mouth care, elevate HOB
   Comments:
   Communication:  Daughter is HCP
   [**Name (NI) 66**] status: DNR / DNI
   Disposition: ICU

2156-03-01 11:40:00 Physician Attending Progress Note
Chief Complaint: PEA arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2156-2-29**] 08:30 AM
 EKG - At [**2156-2-29**] 12:44 PM
 NON-INVASIVE VENTILATION - STOP [**2156-2-29**] 01:12 PM
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Base
   Unknown;
   Lactose Intolerance (Oral) (Lactase)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2156-2-29**] 06:00 PM
   Metronidazole - [**2156-3-1**] 06:00 AM
   Vancomycin - [**2156-3-1**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-3-1**] 11:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.7
C (101.6
   HR: 91 (74 - 126) bpm
   BP: 99/47(60){99/47(60) - 173/67(93)} mmHg
   RR: 26 (22 - 41) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 43.6 kg (admission): 40.4 kg
   Height: 58 Inch
   CVP: 21 (2 - 21)mmHg
   Total In:
                                                                  2,306 mL
                                                                    575 mL
   PO:
   TF:
                                                                    406 mL
   IVF:
                                                                  1,140 mL
                                                                    365 mL
   Blood products:
   Total out:
                                                                  3,390 mL
                                                                    370 mL
   Urine:
                                                                  3,390 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,084 mL
                                                                    205 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: Standby
   Vt (Spontaneous): 776 (772 - 776) mL
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 92%
   ABG: ///29/
   Physical Examination
   General Appearance: Resp distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   Diffuse mid insp)
   Abdominal: Soft
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Non -purposeful, Tone: Not assessed
   Labs / Radiology
   11.5 g/dL
   528 K/uL
   107 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.9 mEq/L
   20 mg/dL
   98 mEq/L
   139 mEq/L
   34.6 %
   21.4 K/uL
        [image002.jpg]
                             [**2156-2-26**]  04:14 AM
                             [**2156-2-26**]  03:36 PM
                             [**2156-2-27**]  04:40 AM
                             [**2156-2-27**]  03:38 PM
                             [**2156-2-28**]  05:21 AM
                             [**2156-2-28**]  06:13 PM
                             [**2156-2-29**]  01:16 AM
                             [**2156-2-29**]  05:18 AM
                             [**2156-2-29**]  04:28 PM
                             [**2156-3-1**]  05:00 AM
   WBC
   12.1
   12.2
   12.1
   13.9
   21.4
   Hct
   24.2
   22.2
   29.2
   28.8
   30.4
   30.3
   34.6
   Plt
   299
   323
   319
   392
   528
   Cr
   0.6
   0.8
   0.7
   0.8
   0.7
   0.8
   TCO2
   30
   30
   Glucose
   90
   120
   87
   [**Telephone/Fax (3) 330**]
   Other labs: PT / PTT / INR:15.5/31.6/1.4, CK / CKMB /
   Troponin-T:662/13/0.10, ALT / AST:37/27, Alk Phos / T Bili:110/0.5,
   Amylase / Lipase:111/23, Differential-Neuts:74.2 %, Band:Units: %
   Range: 0-5 %, Lymph:20.7 %, Mono:4.0 %, Eos:0.4 %, Lactic Acid:1.1
   mmol/L, Albumin:2.4 g/dL, LDH:399 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name **])
   P:F ratio on transfer <200
   Aspiration
   Pneumonia Presumably now has bacterial PNA. CXR has not obviously
   evolved but seems likely she has evolved a bacterial infection.
   Broadening abx. Will work up fever by sending sputum and checking LFTs.
   Prognosis poor
   fever - cx as above. Continue broad abx
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ANEMIA, CHRONIC
 HYPOTENSION (NOT SHOCK)
 ANEMIA, OTHER
 DYSPHAGIA
   G-tube in place; high aspiration risk
 CARDIAC ARREST due to aspiration - holding on any POs given her
   depressed MS
   PEA arrest
 HEMOPTYSIS
   DM -glu good this am. Some ~ 200 will tighten SSI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2156-2-26**] 02:13 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : ICU care
   Total time spent:  40

2156-03-02 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Attending discussed goals of care with daughter [**Doctor First Name 397**] to
   continue aggressive care.
   Patient's other daughter also wants aggressive care for now.
   Febrile in AM with leukocytosis; cultured and cefepime changed to
   meropenem; fevers resolved in PM
   Decreased dose of metoprolol
   Urine output very poor despite IV fluids
 URINE CULTURE - At [**2156-3-1**] 11:00 AM
 BLOOD CULTURED - At [**2156-3-1**] 11:15 AM
 BLOOD CULTURED - At [**2156-3-1**] 12:15 PM
 SPUTUM CULTURE - At [**2156-3-1**] 01:19 PM
 FEVER - 101.6
F - [**2156-3-1**] 09:00 AM
   SUBJECTIVE
   Nonverbal.
   No diarrhea [**Name8 (MD) **] RN.
   Patient unable to provide history: Encephalopathy
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Base
   Unknown;
   Lactose Intolerance (Oral) (Lactase)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2156-2-29**] 06:00 PM
   Vancomycin - [**2156-3-1**] 08:00 AM
   Meropenem - [**2156-3-1**] 07:40 PM
   Metronidazole - [**2156-3-2**] 05:30 AM
   Infusions:
   Other ICU medications:
   Chlorhexidine rinse
   Heparin SQ
   Other medications:
   Metoprolol 37.5 mg PO TID
   Fluoxetine
   Lansoprazole
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-3-2**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 36.9
C (98.4
   HR: 90 (81 - 129) bpm
   BP: 143/62(82){99/40(57) - 155/67(95)} mmHg
   RR: 24 (21 - 39) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 43.6 kg (admission): 40.4 kg
   Height: 58 Inch
    CVP: 9 (2 - 344)mmHg
   Telemetry: Brief runs with HR to 120
s, occ desat to mid 80
   Total In:
                                                                  1,618 mL
                                                                    670 mL
   PO:
                                  TF:
   IVF:
                                                                  1,458 mL
                                                                    620 mL
   Blood products:
   Total out:
                                                                    650 mL
                                                                    235 mL
   Urine:
                                                                    650 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    968 mL
                                                                    435 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   General Appearance: Thin, chronically ill appearing
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic), irregularly irregular
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   posterior mid lung fields, No(t) Wheezes : )
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: No(t) Follows simple commands, Responds to: Tactile
   stimuli, Movement: Non -purposeful, Tone: Not assessed
   Labs / Radiology
   335 K/uL
   9.8 g/dL
   105 mg/dL
   0.5 mg/dL
   22 mEq/L
   2.8 mEq/L
   17 mg/dL
   113 mEq/L
   145 mEq/L
   29.2 %
   16.8 K/uL
        [image002.jpg]
   Ca 6.8, Mg 1.5, Phos 2.0
   INR 1.6
   Fingersticks 144-188
                             [**2156-2-26**]  03:36 PM
                             [**2156-2-27**]  04:40 AM
                             [**2156-2-27**]  03:38 PM
                             [**2156-2-28**]  05:21 AM
                             [**2156-2-28**]  06:13 PM
                             [**2156-2-29**]  01:16 AM
                             [**2156-2-29**]  05:18 AM
                             [**2156-2-29**]  04:28 PM
                             [**2156-3-1**]  05:00 AM
                             [**2156-3-2**]  05:43 AM
   WBC
   12.2
   12.1
   13.9
   21.4
   16.8
   Hct
   22.2
   29.2
   28.8
   30.4
   30.3
   34.6
   29.2
   Plt
   [**Telephone/Fax (3) 398**]28
   335
   Cr
   0.8
   0.7
   0.8
   0.7
   0.8
   0.5
   TCO2
   30
   30
   Glucose
   120
   87
   [**Telephone/Fax (3) 330**]
   105
   Other labs: PT / PTT / INR:17.2/36.4/1.6, CK / CKMB /
   Troponin-T:662/13/0.10, ALT / AST:25/19, Alk Phos / T Bili:98/0.7,
   Amylase / Lipase:74/24, Differential-Neuts:74.2 %, Band:Units: %
   Range: 0-5 %, Lymph:20.7 %, Mono:4.0 %, Eos:0.4 %, Lactic Acid:1.1
   mmol/L, Albumin:2.8 g/dL, LDH:360 IU/L, Ca++:6.8 mg/dL, Mg++:1.5 mg/dL,
   PO4:2.0 mg/dL
   CXR: decreased interstitial infiltrates, left CP angle more visible
   today
   UA: spec [**Last Name (un) **] >1.03 100 prot, nitr+ leuk- 4wbc few bact
   Micro:
   [**3-1**] urine cx pending
   [**3-1**] blood cx [**3-6**] pending
   [**3-1**] sputum >10 epis
   [**2-25**] femoral catheter tip cx negative
   [**2-25**] urine cx yeast
   [**2-24**] blood cx negative
   [**2-22**] blood cx negative
   [**2-22**] urine K. pneumoniae >100,000 resistant to cipro, nitrofurantoin.
   Otherwise S (incl. cefepime and meropenem)
   Assessment and Plan
 Leukocytosis
   WBC trended back down today with improved fever curve and chest
   radiograph. ?Resolving aspiration pneumonia. Changing cefepime to
   meropenem yesterday for broader coverage; could have more extensively
   resistant ICU-acquired gram negative infection. Will continue
   vancomycin/meropenem for now. No new culture data. LFTS, amylase and
   lipase sent yesterday and unremarkable.
   --Follow up cultures, repeat if febrile. Can defer on pulling central
   line at this time.
 Oliguria
   Urine output decreased overnight, will continue maintenance IVFs and
   consider NS bolus as needed if CVP<8.
 h/o C. difficile colitis
   No diarrhea, abdomen nontender. Continue PO vancomycin. Can DC IV
   flagyl.
 Aspiration and dysphagia
   Uncertain if aspiration pneumonia versus pneumonitis. Will be broadly
   covered on meropenem.
   G-tube in place, will restart tube feeds with raglan today. Elevated
   HOB and continue mouth care.
   [**Month (only) 60**] need tracheostomy to decrease risk of aspirating oral secretions,
   will need to be discussed with family
 Urinary tract infection
   Klebsiella pneumonia isolated from urine at admission, should have been
   covered with cefepime. As patient still has foley possibility for
   treatment failure or recurrent UTI exists. Repeat urinalysis and urine
   cultures.  Change foley if urine culture positive.
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Poor status at baseline with added insult of infection and ?cerebral
   hypoxia from PEA arrest. Uncertain if this is new baseline. Will
   follow, treating infections. No need for LP or head imaging at this
   time. Replete electrolytes prn, treat infections as above.
 Atrial fibrillation with RVR
   Continue metoprolol TID, can titrate further as BP tolerates if needed
   for additional HR control today. Continue to monitor on telemetry. No
   anticoagulation giving risk of bleeding.
Hypothyroidism
   Continue levothyroxine
 Diabetes
   Continue fingersticks with insulin sliding scale
 COPD, on 2L/min at home during night
   Continue albuterol PRN
 CAD
   Continue beta [**Last Name (LF) 368**], [**First Name3 (LF) 369**] 81mg daily
 CHF diastolic EF 60% 7/07
   Continue rate control with metoprolol. Goal net even today. Replete
   K>4, Magnesium>2
 Anemia
   Hematocrit slightly decreased today. No evidence of gross active
   bleeding. Suspect decrease may reflect fluids in part. Guiac stools,
   follow for now.
 Depression and anxiety
   Continue home sertraline
   ICU Care
   FEN: Will restart tube feeds with reglan today. Replete electrolytes
   and recheck in PM.
   Glycemic Control:  Insulin sliding scale
   Lines:
   Multi Lumen - [**2156-2-26**] 02:13 AM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: Continue PPI
   VAP:  Mouth care, elevate HOB
   Comments:
   Communication:  Daughter is HCP
   [**Name (NI) 66**] status: DNR / DNI
   Disposition: MACU versus home with hospice. Will need to discuss with
   patient
s family today.

2156-03-02 11:16:00 Physician Attending Progress Note
Chief Complaint: PEA arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   suctioned q4h overnight
   24 Hour Events:
 URINE CULTURE - At [**2156-3-1**] 11:00 AM
 BLOOD CULTURED - At [**2156-3-1**] 11:15 AM
 BLOOD CULTURED - At [**2156-3-1**] 12:15 PM
 SPUTUM CULTURE - At [**2156-3-1**] 01:19 PM
 FEVER - 101.6
F - [**2156-3-1**] 09:00 AM
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Base
   Unknown;
   Lactose Intolerance (Oral) (Lactase)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2156-2-29**] 06:00 PM
   Metronidazole - [**2156-3-2**] 05:30 AM
   Vancomycin - [**2156-3-2**] 08:00 AM
   Meropenem - [**2156-3-2**] 08:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-3-2**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.6
C (97.9
   HR: 82 (73 - 129) bpm
   BP: 146/64(82){105/40(57) - 155/67(95)} mmHg
   RR: 26 (21 - 33) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 43.6 kg (admission): 40.4 kg
   Height: 58 Inch
   CVP: 11 (6 - 344)mmHg
   Total In:
                                                                  1,618 mL
                                                                  1,334 mL
   PO:
   TF:
   IVF:
                                                                  1,458 mL
                                                                  1,284 mL
   Blood products:
   Total out:
                                                                    650 mL
                                                                    335 mL
   Urine:
                                                                    650 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    968 mL
                                                                    999 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 94%
   ABG: ///22/
   Physical Examination
   General Appearance: Thin, frail
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   diffuse mid insp, No(t) Bronchial: , No(t) Wheezes : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   335 K/uL
   105 mg/dL
   0.5 mg/dL
   22 mEq/L
   2.8 mEq/L
   17 mg/dL
   113 mEq/L
   145 mEq/L
   29.2 %
   16.8 K/uL
         [image002.jpg]
                             [**2156-2-26**]  03:36 PM
                             [**2156-2-27**]  04:40 AM
                             [**2156-2-27**]  03:38 PM
                             [**2156-2-28**]  05:21 AM
                             [**2156-2-28**]  06:13 PM
                             [**2156-2-29**]  01:16 AM
                             [**2156-2-29**]  05:18 AM
                             [**2156-2-29**]  04:28 PM
                             [**2156-3-1**]  05:00 AM
                             [**2156-3-2**]  05:43 AM
   WBC
   12.2
   12.1
   13.9
   21.4
   16.8
   Hct
   22.2
   29.2
   28.8
   30.4
   30.3
   34.6
   29.2
   Plt
   [**Telephone/Fax (3) 398**]28
   335
   Cr
   0.8
   0.7
   0.8
   0.7
   0.8
   0.5
   TCO2
   30
   30
   Glucose
   120
   87
   [**Telephone/Fax (3) 330**]
   105
   Other labs: PT / PTT / INR:17.2/36.4/1.6, CK / CKMB /
   Troponin-T:662/13/0.10, ALT / AST:25/19, Alk Phos / T Bili:98/0.7,
   Amylase / Lipase:74/24, Differential-Neuts:74.2 %, Band:Units: %
   Range: 0-5 %, Lymph:20.7 %, Mono:4.0 %, Eos:0.4 %, Lactic Acid:1.1
   mmol/L, Albumin:2.8 g/dL, LDH:360 IU/L, Ca++:6.8 mg/dL, Mg++:1.5 mg/dL,
   PO4:2.0 mg/dL
   Assessment and Plan
 LEUKOCYTOSIS
 ALTERED MENTAL STATUS (NOT DELIRIUM) minimally responsive today
 URINARY TRACT INFECTION (UTI)
 PNEUMONIA, ASPIRATION continuing to require regular suctioning but
   WBC starting to trend down again.  Oral secretions in airway and she is
   obviously aspirating.  Would require trache to avoid aspiration. For
   now treating with broad abx and NT suctioning as tolerated
 .H/O C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE) remains on Flagyl
 ANEMIA, CHRONIC
 DYSPHAGIA
   G-tube in place; high aspiration risk
 CARDIAC ARREST secondary to aspiration - hard to see how this can be
   prevented in the future
   PEA arrest
 HEMOPTYSIS resolved
 DIABETES MELLITUS (DM), TYPE II
 HYPOTHYROIDISM
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC
   ICU Care
   Nutrition:
   Comments: aspirating from G-tube. Will try Reglan but she will continue
   to aspirate oral secretions
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2156-2-26**] 02:13 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  PPI
   VAP:  HOB elevated
   Comments:
   Communication: Family meeting held  Comments: discussed prognosis with
   family - informed she has very poor prognosis but they wish aggressive
   therapy
   Code status: DNR / DNI
   Disposition :Transfer to rehab / long term care facility
   Total time spent:  35 min
   Patient is critically ill

2156-03-03 07:44:00 Physician Resident Progress Note
Chief Complaint: aspiration PNA
   24 Hour Events:
 PICC LINE - START [**2156-3-2**] 12:00 PM
 SPUTUM CULTURE - At [**2156-3-2**] 01:10 PM
 MULTI LUMEN - STOP [**2156-3-2**] 10:30 PM
   site cleaned and dressing changed.
   screened for MACU - transfer depends on big picture for her care
   PICC placed, LIJ pulled
   urine output remained borderline, given 500cc NS bolus x1 without great
   effect
   tube feeds were planned to restart, but TF not flushing
   family meeting needed wednesday to discuss ?trach and dispo
   ~4am episode of ?flash pulmonary edema in setting of BP'd to 190's
   given lasix, nitrates, morphine with good effect
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Base
   Unknown;
   Lactose Intolerance (Oral) (Lactase)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2156-2-29**] 06:00 PM
   Metronidazole - [**2156-3-2**] 05:30 AM
   Vancomycin - [**2156-3-2**] 08:00 AM
   Meropenem - [**2156-3-2**] 08:30 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2156-3-2**] 08:00 AM
   Metoprolol - [**2156-3-3**] 04:50 AM
   Furosemide (Lasix) - [**2156-3-3**] 04:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-3-3**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.4
   HR: 87 (73 - 150) bpm
   BP: 114/52(66){114/43(63) - 199/106(126)} mmHg
   RR: 27 (18 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 43.6 kg (admission): 40.4 kg
   Height: 58 Inch
    CVP: 13 (6 - 22)mmHg
   Total In:
                                                                  3,239 mL
                                                                    748 mL
   PO:
   TF:
   IVF:
                                                                  3,189 mL
                                                                    748 mL
   Blood products:
   Total out:
                                                                    595 mL
                                                                    165 mL
   Urine:
                                                                    595 mL
                                                                    165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,644 mL
                                                                    583 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: Thin, frail, elderly
   Head, Ears, Nose, Throat: Neck TLC site dressing C/D/I
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: b/l bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, G tube in place
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   402 K/uL
   9.4 g/dL
   201 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.0 mEq/L
   15 mg/dL
   105 mEq/L
   137 mEq/L
   29.6 %
   16.7 K/uL
        [image002.jpg]
                             [**2156-2-27**]  03:38 PM
                             [**2156-2-28**]  05:21 AM
                             [**2156-2-28**]  06:13 PM
                             [**2156-2-29**]  01:16 AM
                             [**2156-2-29**]  05:18 AM
                             [**2156-2-29**]  04:28 PM
                             [**2156-3-1**]  05:00 AM
                             [**2156-3-2**]  05:43 AM
                             [**2156-3-2**]  02:53 PM
                             [**2156-3-3**]  06:29 AM
   WBC
   12.1
   13.9
   21.4
   16.8
   16.7
   Hct
   28.8
   30.4
   30.3
   34.6
   29.2
   29.6
   Plt
   [**Telephone/Fax (3) 441**]35
   402
   Cr
   0.7
   0.8
   0.7
   0.8
   0.5
   0.6
   0.5
   TCO2
   30
   30
   Glucose
   87
   [**Telephone/Fax (3) 442**]05
   171
   201
   Other labs: PT / PTT / INR:17.2/36.4/1.6, CK / CKMB /
   Troponin-T:662/13/0.10, ALT / AST:25/19, Alk Phos / T Bili:98/0.7,
   Amylase / Lipase:74/24, Differential-Neuts:74.2 %, Band:Units: %
   Range: 0-5 %, Lymph:20.7 %, Mono:4.0 %, Eos:0.4 %, Lactic Acid:1.1
   mmol/L, Albumin:2.8 g/dL, LDH:360 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.3 mg/dL
   Imaging: [**3-2**] CXR
   IMPRESSION:  Repositioning of the right PICC line with distal tip now
   appropriately located in the mid SVC.
   .
   [**3-2**] CXR (prior)
   The left internal jugular line tip is in mid low SVC, with no azygous
   vein
   continuation. Looped catheter projecting over the mid upper abdomen is
   new.
   Mild cardiomegaly is stable.  Mediastinal contours are unchanged.
   Overall
   improvement in widespread interstitial markings most likely corresponds
   to
   partial improvement of heart failure.
   Microbiology: [**2156-3-3**] 1:00 am CATHETER TIP-IV      Source: LIJ.
      WOUND CULTURE (Pending):
   .
   [**2156-3-2**] 12:53 pm SPUTUM      Source: Expectorated.
      GRAM STAIN (Final [**2156-3-2**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
         1+    (<1 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
      RESPIRATORY CULTURE (Pending):
   .
   [**3-2**] BCx PND
   [**3-1**] UCx negative
   Assessment and Plan
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC
 seems to have had acute on
   chronic decompensation last night
   -          continue metoprolol 5mg IV q4h, uptitrate as tolerated
   -          diurese today with goal of -500cc to 1000cc
   -          continue supplemental O2
   -          prn nitrate, morphine for any decompensation
 PNEUMONIA, ASPIRATION
   -          now afebrile, follow clinical status and serial CXRs for
   improvement
   -          Continue vanc/meropenem, 10- 14 day course
 LEUKOCYTOSIS
 stable, attributable to aspiration PNA
   -          continue systemic vancomycin/meropenem for now
   -          f/u cultures, no bug identified as yet
 DYSPHAGIA: G-tube in place; high aspiration risk, now G tube unable
   to flush or use
   -          only alternative would be surgical or endoscopic. Very poor
   candidate for either intervention
   -          may have to receive TPN
   -          can hold reglan in meantime
   -          meds have to be delivered IV
 .H/O C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE)
   -          diarrhea decreased
   -          Continue PO vancomycin (? Failed Flagyl previously)
 ANEMIA, CHRONIC
   -          HCTs stable, stool guaiac negative. Monitor daily
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   -          Poor status at baseline with added insult of infection and
   ?cerebral hypoxia from PEA arrest. Uncertain if this is new baseline.
   Will follow, treating infections. No need for LP or head imaging at
   this time. Replete electrolytes prn, treat infections as above
 URINARY TRACT INFECTION (UTI)
   - isolated on admission, now resolved, subsequent cultures negative
 h/o Atrial fibrillation with RVR
 currently in sinus
   -          Continue metoprolol as above
   -          Not an anticoagulation candidate
 DIABETES MELLITUS (DM), TYPE II
   -          uptitrate insulin sliding scale
 HYPOTHYROIDISM
   -          Continue levothyroxine
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   - Continue metoprolol as above, continue ASA 81mg daily
   ICU Care
   Nutrition:
   Comments: unable to feeed as aspiration risk, G tube not functioning,
   see above
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2156-3-2**] 12:00 PM
   L TLC d/c
ed [**3-2**]
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:  Mouth care, elevate HOB
   Comments:
   Communication:  Comments:  MACU versus home with hospice. Will need to
   discuss with patient
s family today.
   Code status: DNR but may intubate
   Disposition:Transfer to other facility

2156-03-03 17:43:00 Physician Attending Progress Note
Chief Complaint: PEA arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   PEG tube clogged
   24 Hour Events:
 PICC LINE - START [**2156-3-2**] 12:00 PM
 SPUTUM CULTURE - At [**2156-3-2**] 01:10 PM
 MULTI LUMEN - STOP [**2156-3-2**] 10:30 PM
   site cleaned and dressing changed.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Base
   Unknown;
   Lactose Intolerance (Oral) (Lactase)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2156-2-29**] 06:00 PM
   Metronidazole - [**2156-3-2**] 05:30 AM
   Meropenem - [**2156-3-3**] 08:05 AM
   Vancomycin - [**2156-3-3**] 08:30 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2156-3-3**] 04:50 AM
   Furosemide (Lasix) - [**2156-3-3**] 04:54 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO, No(t) Tube feeds
   Flowsheet Data as of  [**2156-3-3**] 05:42 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.4
   HR: 95 (76 - 150) bpm
   BP: 138/60(80){104/46(62) - 199/106(126)} mmHg
   RR: 28 (19 - 29) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 43.6 kg (admission): 40.4 kg
   Height: 58 Inch
   CVP: 13 (12 - 14)mmHg
   Total In:
                                                                  3,239 mL
                                                                  1,265 mL
   PO:
   TF:
   IVF:
                                                                  3,189 mL
                                                                  1,265 mL
   Blood products:
   Total out:
                                                                    595 mL
                                                                  2,230 mL
   Urine:
                                                                    595 mL
                                                                  2,230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,644 mL
                                                                   -964 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   General Appearance: frail
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : mid insp)
   Abdominal: Soft, PEG
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Cool
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Non -purposeful, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   402 K/uL
   201 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.0 mEq/L
   15 mg/dL
   105 mEq/L
   137 mEq/L
   29.6 %
   16.7 K/uL
        [image002.jpg]
                             [**2156-2-27**]  03:38 PM
                             [**2156-2-28**]  05:21 AM
                             [**2156-2-28**]  06:13 PM
                             [**2156-2-29**]  01:16 AM
                             [**2156-2-29**]  05:18 AM
                             [**2156-2-29**]  04:28 PM
                             [**2156-3-1**]  05:00 AM
                             [**2156-3-2**]  05:43 AM
                             [**2156-3-2**]  02:53 PM
                             [**2156-3-3**]  06:29 AM
   WBC
   12.1
   13.9
   21.4
   16.8
   16.7
   Hct
   28.8
   30.4
   30.3
   34.6
   29.2
   29.6
   Plt
   [**Telephone/Fax (3) 441**]35
   402
   Cr
   0.7
   0.8
   0.7
   0.8
   0.5
   0.6
   0.5
   TCO2
   30
   30
   Glucose
   87
   [**Telephone/Fax (3) 442**]05
   171
   201
   Other labs: PT / PTT / INR:17.2/36.4/1.6, CK / CKMB /
   Troponin-T:662/13/0.10, ALT / AST:25/19, Alk Phos / T Bili:98/0.7,
   Amylase / Lipase:74/24, Differential-Neuts:74.2 %, Band:Units: %
   Range: 0-5 %, Lymph:20.7 %, Mono:4.0 %, Eos:0.4 %, Lactic Acid:1.1
   mmol/L, Albumin:2.8 g/dL, LDH:360 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
 LEUKOCYTOSIS improving on broadened abx
 ALTERED MENTAL STATUS (NOT DELIRIUM) remains
 URINARY TRACT INFECTION (UTI)
 PNEUMONIA, ASPIRATION requiring less frequent suctioning
 .H/O C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE) continues on Flagyl
 ANEMIA, CHRONIC
 DYSPHAGIA
   G-tube in place; high aspiration risk - IR to replace PEG and try to
   convert to a J-tube
 CARDIAC ARREST
   PEA arrest
 HEMOPTYSIS
 DIABETES MELLITUS (DM), TYPE II controlled
 HYPOTHYROIDISM
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC
   ICU Care
   Nutrition:
   Glycemic Control:  SSI
   Lines:
   PICC Line - [**2156-3-2**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: family meeting tonight
   Code status: DNR / DNI
   Disposition : to rehab after PEG
   Total time spent:  35

2156-03-04 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - IR changed G tube to G-J tube, feeds restarted
   - family never showed up
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Base
   Unknown;
   Lactose Intolerance (Oral) (Lactase)
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2156-3-2**] 05:30 AM
   Vancomycin - [**2156-3-3**] 08:30 AM
   Meropenem - [**2156-3-3**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Meropenem 1g IV q12 day 4
   Vancomycin 500mg IV daily day 9
   Vancomycin 250mg PO q6
   Metoprolol 5mg IV q4
   Aspirin 81 daily
   Ferrous sulfate
   Fluoxetine
   SQ heparin
   Lansoprazole
   Levothyroxine
   Flowsheet Data as of  [**2156-3-4**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 103 (76 - 103) bpm
   BP: 162/61(85){104/46(62) - 162/87(102)} mmHg
   RR: 26 (19 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 43.6 kg (admission): 40.4 kg
   Height: 58 Inch
             Total In:
                                                                  1,552 mL
                                                                    445 mL
   PO:
             TF:
                                                                     59 mL
                                                                    298 mL
   IVF:
                                                                  1,494 mL
                                                                    148 mL
   Blood products:
   Total out:
                                                                  2,450 mL
                                                                    310 mL
   Urine:
                                                                  2,450 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -898 mL
                                                                    135 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic), tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present, G tube in place
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   382 K/uL
   9.5 g/dL
   126 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.4 mEq/L
   14 mg/dL
   103 mEq/L
   139 mEq/L
   29.7 %
   13.3 K/uL
        [image002.jpg]
   Micro
   [**3-3**] catheter tip pending
   [**3-2**] sputum gram 2+ GPC pairs and clusters, 1+ yeast, cx yeast
   [**3-1**] blood NGTD
   [**3-1**] sputum cx not done
   [**3-1**] urine cx negative
   [**2-24**] blood cx negative
   [**2-23**] legionella antigen negative
   [**2-23**] stood c diff negative
                             [**2156-2-28**]  05:21 AM
                             [**2156-2-28**]  06:13 PM
                             [**2156-2-29**]  01:16 AM
                             [**2156-2-29**]  05:18 AM
                             [**2156-2-29**]  04:28 PM
                             [**2156-3-1**]  05:00 AM
                             [**2156-3-2**]  05:43 AM
                             [**2156-3-2**]  02:53 PM
                             [**2156-3-3**]  06:29 AM
                             [**2156-3-4**]  04:52 AM
   WBC
   12.1
   13.9
   21.4
   16.8
   16.7
   13.3
   Hct
   30.4
   30.3
   34.6
   29.2
   29.6
   29.7
   Plt
   [**Telephone/Fax (3) 441**]35
   402
   382
   Cr
   0.7
   0.8
   0.7
   0.8
   0.5
   0.6
   0.5
   0.6
   TCO2
   30
   30
   Glucose
   87
   [**Telephone/Fax (3) 442**]05
   171
   201
   126
   Other labs: PT / PTT / INR:17.2/36.4/1.6, CK / CKMB /
   Troponin-T:662/13/0.10, ALT / AST:25/19, Alk Phos / T Bili:98/0.7,
   Amylase / Lipase:74/24, Differential-Neuts:86.6 %, Band:Units: %
   Range: 0-5 %, Lymph:9.4 %, Mono:2.9 %, Eos:0.7 %, Lactic Acid:1.1
   mmol/L, Albumin:2.8 g/dL, LDH:360 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.1 mg/dL
   Assessment and Plan
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC
   -          continue metoprolol 5mg IV q4h, titrate further today as
   blood pressure tolerates for further rate control
   -          diurese today with goal of -500cc to 1000cc
   -          continue supplemental O2
   -          prn nitrate, morphine for any decompensation
 PNEUMONIA, ASPIRATION
   -          now afebrile, follow clinical status and serial CXRs for
   improvement
   -          Continue vanc/meropenem, 10- 14 day course
 LEUKOCYTOSIS
 improving, attributable to aspiration PNA
   -          continue systemic vancomycin/meropenem for now
   -          f/u cultures, no new culture data
 DYSPHAGIA: G-tube in place; high aspiration risk
   contact IR for G tube declotting or replacement
   -          f/u cultures, no new culture data
 .H/O C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE)
   -          diarrhea decreased
   -          Continue PO vancomycin after G tube placed (Failed Flagyl
   previously)
 ANEMIA, CHRONIC
   -          HCTs stable, stool guaiac negative. Monitor daily
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   -          Poor status at baseline with added insult of infection and
   ?cerebral hypoxia from PEA arrest.
 URINARY TRACT INFECTION (UTI)
   -          Klebsiella isolated on admission, now resolved, subsequent
   cultures negative
 h/o Atrial fibrillation with RVR
 currently in sinus
   -          Continue metoprolol as above
   -          Not an anticoagulation candidate
 DIABETES MELLITUS (DM), TYPE II
   -          uptitrate insulin sliding scale
 HYPOTHYROIDISM
   -          change to IV levothyroxine at 75% of po dose
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   -          Continue metoprolol as above, continue ASA 81mg daily
   ICU Care
   Nutrition:
   Replete with Fiber ([**2-6**]) - [**2156-3-4**] 05:01 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2156-3-2**] 12:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2156-03-04 11:47:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   PEG replaced
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Base
   Unknown;
   Lactose Intolerance (Oral) (Lactase)
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2156-3-2**] 05:30 AM
   Vancomycin - [**2156-3-4**] 07:58 AM
   Meropenem - [**2156-3-4**] 07:59 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2156-3-4**] 09:59 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea, minimal cough
   Flowsheet Data as of  [**2156-3-4**] 11:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 92 (76 - 115) bpm
   BP: 99/51(64){99/46(62) - 162/87(102)} mmHg
   RR: 18 (18 - 30) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 43.6 kg (admission): 40.4 kg
   Height: 58 Inch
             Total In:
                                                                  1,552 mL
                                                                  1,264 mL
   PO:
             TF:
                                                                     59 mL
                                                                    451 mL
   IVF:
                                                                  1,494 mL
                                                                    563 mL
   Blood products:
   Total out:
                                                                  2,450 mL
                                                                    850 mL
   Urine:
                                                                  2,450 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -898 mL
                                                                    414 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 92%
   ABG: ///25/
   Physical Examination
   General Appearance: Frail
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.5 g/dL
   382 K/uL
   126 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.4 mEq/L
   14 mg/dL
   103 mEq/L
   139 mEq/L
   29.7 %
   13.3 K/uL
        [image002.jpg]
                             [**2156-2-28**]  05:21 AM
                             [**2156-2-28**]  06:13 PM
                             [**2156-2-29**]  01:16 AM
                             [**2156-2-29**]  05:18 AM
                             [**2156-2-29**]  04:28 PM
                             [**2156-3-1**]  05:00 AM
                             [**2156-3-2**]  05:43 AM
                             [**2156-3-2**]  02:53 PM
                             [**2156-3-3**]  06:29 AM
                             [**2156-3-4**]  04:52 AM
   WBC
   12.1
   13.9
   21.4
   16.8
   16.7
   13.3
   Hct
   30.4
   30.3
   34.6
   29.2
   29.6
   29.7
   Plt
   [**Telephone/Fax (3) 441**]35
   402
   382
   Cr
   0.7
   0.8
   0.7
   0.8
   0.5
   0.6
   0.5
   0.6
   TCO2
   30
   30
   Glucose
   87
   [**Telephone/Fax (3) 442**]05
   171
   201
   126
   Other labs: PT / PTT / INR:17.2/36.4/1.6, CK / CKMB /
   Troponin-T:662/13/0.10, ALT / AST:25/19, Alk Phos / T Bili:98/0.7,
   Amylase / Lipase:74/24, Differential-Neuts:86.6 %, Band:Units: %
   Range: 0-5 %, Lymph:9.4 %, Mono:2.9 %, Eos:0.7 %, Lactic Acid:1.1
   mmol/L, Albumin:2.8 g/dL, LDH:360 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.1 mg/dL
   Assessment and Plan
 LEUKOCYTOSIS
 ALTERED MENTAL STATUS (NOT DELIRIUM) - likely at baseline
 URINARY TRACT INFECTION (UTI)
 PNEUMONIA, ASPIRATION WBC  - WBC sl down. Minimal cough. Not a
   candidate for trache but this is all that will prevent future
   aspiration
 .H/O C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE)
 ANEMIA, CHRONIC - stable
 DYSPHAGIA
   G-tube in place; high aspiration risk, s/p GJ tube placement by IR on
   [**3-3**]
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC - stable
 DIABETES MELLITUS (DM), TYPE II
 HYPOTHYROIDISM
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   Prognosis remains very poor. There is nothing to prevent future
   aspiration and she will inevitably develop recurrent pneumonia. This
   has been discussed with her daughter who is the proxy.
   ICU [**Name2 (NI) **]
   Nutrition:
   Replete with Fiber ([**2-6**]) - [**2156-3-4**] 09:44 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2156-3-2**] 12:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition :Transfer to floor or to rehab
   Total time spent: 30 minutes

2156-03-05 07:30:00 Physician Resident Progress Note
[**Age over 90 52**]F admitted with fever and altered mental status recent C. diff found
   to have UTI had PEA arrest on floor c/b aspiration pneumonia
   24 Hour Events:
   Spoke with daughters; both are clear about wanting to continue
   aggressive care for Ms. [**Known lastname 103**]
   Both daughters coming in in the morning to talk with palliative care
   team (10-11am)
   Being screened for [**Hospital1 82**] given that daughters feel she did not do
   well at [**Hospital 12**] Rehab
   Febrile to 101F last night -- blood cultures sent
   RN reports need for frequent suctioning, thick tan secretions
 BLOOD CULTURED - At [**2156-3-4**] 11:49 PM
 URINE CULTURE - At [**2156-3-5**] 12:02 AM
 CALLED OUT
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Base
   Unknown;
   Lactose Intolerance (Oral) (Lactase)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2156-3-4**] 07:58 AM
   Meropenem - [**2156-3-4**] 07:46 PM
   Other ICU medications:
   Furosemide (Lasix) - [**2156-3-4**] 09:59 AM
   Other medications:
   Meropenem 1g IV q12 day 5
   Vancomycin 500mg IV daily day 10
   Vancomycin 250mg PO q6
   Metoprolol 37.5mg PO TID
   Aspirin 81 daily
   Ferrous sulfate
   Fluoxetine
   SQ heparin
   Lansoprazole
   Levothyroxine
   Flowsheet Data as of  [**2156-3-5**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.8
C (98.2
   HR: 76 (66 - 115) bpm
   BP: 129/55(73){99/40(57) - 151/62(79)} mmHg
   RR: 28 (18 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 43.6 kg (admission): 40.4 kg
   Height: 58 Inch
    Telemetry: episodes of afib with RVR to 120
s, desats to 80
s and
   upper 70
   Total In:
                                                                  2,934 mL
                                                                    187 mL
   PO:
   TF:
                                                                    842 mL
                                                                     25 mL
   IVF:
                                                                  1,112 mL
                                                                    132 mL
   Blood products:
   Total out:
                                                                  2,935 mL
                                                                    250 mL
   Urine:
                                                                  2,935 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -1 mL
                                                                    -63 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98% 10L shovel mask
   ABG: ///30/
   Physical Examination
   General Appearance: Thin, chronically ill appearing
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No edema. Has R PICC line.
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   399 K/uL
   8.7 g/dL
   114 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.3 mEq/L
   20 mg/dL
   101 mEq/L
   134 mEq/L
   26.9 %
   12.9 K/uL
        [image002.jpg]
   Vancomycin 16.1
   Fingersticks 121-210
   Micro
   [**3-4**] blood cx pending
   [**3-3**] catheter tip pending
   [**3-2**] sputum moderate Staph Aureus (no sensitivities reported yet) 2
   colony morphologies and yeast
   [**3-1**] blood NGTD
   [**3-1**] sputum cx not done
   [**3-1**] urine cx negative
   [**2-24**] blood cx negative
   [**2-23**] legionella antigen negative
   [**2-23**] stood c diff negative
   CXR pending
                             [**2156-2-29**]  01:16 AM
                             [**2156-2-29**]  05:18 AM
                             [**2156-2-29**]  04:28 PM
                             [**2156-3-1**]  05:00 AM
                             [**2156-3-2**]  05:43 AM
                             [**2156-3-2**]  02:53 PM
                             [**2156-3-3**]  06:29 AM
                             [**2156-3-4**]  04:52 AM
                             [**2156-3-4**]  01:00 PM
                             [**2156-3-5**]  03:37 AM
   WBC
   13.9
   21.4
   16.8
   16.7
   13.3
   12.9
   Hct
   30.3
   34.6
   29.2
   29.6
   29.7
   26.9
   Plt
   392
   528
   335
   [**Telephone/Fax (3) 550**]
   Cr
   0.8
   0.7
   0.8
   0.5
   0.6
   0.5
   0.6
   0.6
   0.5
   TCO2
   30
   Glucose
   [**Telephone/Fax (3) 442**]05
   171
   201
   126
   101
   114
   Other labs: PT / PTT / INR:13.3/29.4/1.1, CK / CKMB /
   Troponin-T:662/13/0.10, ALT / AST:25/19, Alk Phos / T Bili:98/0.7,
   Amylase / Lipase:74/24, Differential-Neuts:86.6 %, Band:Units: %
   Range: 0-5 %, Lymph:9.4 %, Mono:2.9 %, Eos:0.7 %, Lactic Acid:1.1
   mmol/L, Albumin:2.8 g/dL, LDH:360 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL,
   PO4:1.7 mg/dL
   Assessment and Plan
 PNEUMONIA, ASPIRATION
   No worsening of O2 requirements, currently afebrile
   - Continue routine suctioning and vancomycin/meropenem, follow up
   cultures
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC
   Chest film c/w pulmonary edema
   - Continue metoprolol, diurese goal net negative 1L today
 DYSPHAGIA: G-tube in place; high aspiration risk
 H/O C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE)
   -          No diarrhea or abdominal tenderness currently
   -          Continue PO vancomycin for two weeks after broad spectrum
   antibiotics completed
 ANEMIA, CHRONIC. Macrocytic anemia less c/w iron deficiency
 may be
   due to her thyroid disease versus other hematologic process as recent
   folate and B12 were normal recently. Iron panel was normal [**2156-1-14**].
   -          Hct slightly decreased today, guaiac stools, check PM Hct.
   Transfuse Hb>7
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   -          Poor status at baseline with added insult of infection and
   ?cerebral hypoxia from PEA arrest, follow.
 URINARY TRACT INFECTION (UTI)
   -          Klebsiella isolated on admission, repeat urine culture
   negative
 h/o Atrial fibrillation with RVR
 currently in sinus rhythm
   -          Titrate up metoprolol as BP tolerates
   -          Not an anticoagulation candidate
 DIABETES MELLITUS (DM), TYPE II
   -          Continue insulin sliding scale
 HYPOTHYROIDISM
   -          Continue levothyroxine
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   -          On beta blocker and ASA
   ICU Care
   Nutrition: continue tube feeds
   Glycemic Control:  Comments: continue insulin sliding scale
   Lines:
   PICC Line - [**2156-3-2**] 12:00 PM
   Prophylaxis:
   DVT: Boots
   VAP: HOB elevation, Mouth care
   Communication:  with daughters
   [**Name (NI) 66**] status: DNR may intubate
   Disposition: ?[**Last Name (LF) 82**], [**First Name3 (LF) 178**] discuss with family

2156-03-05 11:57:00 Physician Attending Progress Note
Chief Complaint: PEA qrrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2156-3-4**] 11:49 PM
 URINE CULTURE - At [**2156-3-5**] 12:02 AM
 CALLED OUT
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Base
   Unknown;
   Lactose Intolerance (Oral) (Lactase)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2156-3-5**] 08:13 AM
   Vancomycin - [**2156-3-5**] 09:14 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2156-3-5**] 11:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.4
C (97.5
   HR: 74 (66 - 103) bpm
   BP: 104/47(61){104/40(57) - 151/62(79)} mmHg
   RR: 21 (21 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 43.6 kg (admission): 40.4 kg
   Height: 58 Inch
             Total In:
                                                                  2,934 mL
                                                                  1,325 mL
   PO:
             TF:
                                                                    841 mL
                                                                    523 mL
   IVF:
                                                                  1,112 mL
                                                                    521 mL
   Blood products:
   Total out:
                                                                  2,935 mL
                                                                    435 mL
   Urine:
                                                                  2,935 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -1 mL
                                                                    890 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 98%
   ABG: ///30/
   Physical Examination
   General Appearance: frail
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness :
   bilat), (Breath Sounds: Crackles : scattered diffuse, Diminished: )
   Abdominal: Soft
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   399 K/uL
   114 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.3 mEq/L
   20 mg/dL
   101 mEq/L
   134 mEq/L
   26.9 %
   12.9 K/uL
        [image002.jpg]
                             [**2156-2-29**]  01:16 AM
                             [**2156-2-29**]  05:18 AM
                             [**2156-2-29**]  04:28 PM
                             [**2156-3-1**]  05:00 AM
                             [**2156-3-2**]  05:43 AM
                             [**2156-3-2**]  02:53 PM
                             [**2156-3-3**]  06:29 AM
                             [**2156-3-4**]  04:52 AM
                             [**2156-3-4**]  01:00 PM
                             [**2156-3-5**]  03:37 AM
   WBC
   13.9
   21.4
   16.8
   16.7
   13.3
   12.9
   Hct
   30.3
   34.6
   29.2
   29.6
   29.7
   26.9
   Plt
   392
   528
   335
   [**Telephone/Fax (3) 550**]
   Cr
   0.8
   0.7
   0.8
   0.5
   0.6
   0.5
   0.6
   0.6
   0.5
   TCO2
   30
   Glucose
   [**Telephone/Fax (3) 442**]05
   171
   201
   126
   101
   114
   Other labs: PT / PTT / INR:13.3/29.4/1.1, CK / CKMB /
   Troponin-T:662/13/0.10, ALT / AST:25/19, Alk Phos / T Bili:98/0.7,
   Amylase / Lipase:74/24, Differential-Neuts:86.6 %, Band:Units: %
   Range: 0-5 %, Lymph:9.4 %, Mono:2.9 %, Eos:0.7 %, Lactic Acid:1.1
   mmol/L, Albumin:2.8 g/dL, LDH:360 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL,
   PO4:1.7 mg/dL
   Assessment and Plan
 LEUKOCYTOSIS
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 URINARY TRACT INFECTION (UTI)
 PNEUMONIA, ASPIRATION
 .H/O C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE)
 ANEMIA, CHRONIC
 DYSPHAGIA
   G-tube in place; high aspiration risk, s/p GJ tube placement by IR on
   [**3-3**]
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC
 DIABETES MELLITUS (DM), TYPE II
 HYPOTHYROIDISM
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   Continuing to deteriorate. Fever overnight with worsening secretions.
   Likely exacerbation of pneumonia. Continuing broad abx but no acute
   change in condition.  Ongoing discussion with family of goals of care.
   We have informed patient's daughters that long term prognosis is dismal
   as Ms. [**Known lastname 103**] is unable to clear secretions and is undoubtedly going
   to continue to have recurrenbt exacerbations of her pulmonary
   infection.  I do not believe even a tracheotomy will substantially
   change her prognosis as we are having reasonable success with NT
   suctioning.  Longer term, however, it is impossible to resolve Ms.
   [**Known lastname 103**]' infections and reverse her long standing and chronic decline.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2156-3-2**] 12:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition : Plan for discharge to sub acute facility. Family has
   expressed a desire to take patient home but that is not medically
   acceptable unless she is hospice care
   Total time spent: 50 minutes

2156-03-06 07:29:00 Physician Resident Progress Note
[**Age over 90 52**]F admitted with fever and altered mental status recent C. difficile
   colitis s/p PEA arrest c/b aspiration pneumonia
   24 Hour Events:
   case manager spoke with family, plan for meeting saturday
   diuresed with lasix
   did not require suctioning overnight
 SPUTUM CULTURE - At [**2156-3-5**] 12:02 PM
   Patient unable to provide history: Encephalopathy
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Base
   Unknown;
   Lactose Intolerance (Oral) (Lactase)
   Unknown;
   Other ICU medications:
   Furosemide (Lasix) - [**2156-3-5**] 11:45 PM
   Other medications:
   Meropenem 1g IV q12 day 6
   Vancomycin 500mg IV daily day 11
   Vancomycin 250mg PO q6
   Metoprolol 37.5mg PO TID
   Aspirin 81 daily
   Ferrous sulfate
   Fluoxetine
   SQ heparin
   Lansoprazole
   Levothyroxine
   Flowsheet Data as of  [**2156-3-6**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.7
C (96.3
   HR: 74 (70 - 108) bpm
   BP: 128/38(60){104/38(60) - 153/54(83)} mmHg
   RR: 19 (19 - 35) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 43.6 kg (admission): 40.4 kg
   Height: 58 Inch
             Total In:
                                                                  2,300 mL
                                                                    540 mL
   PO:
             TF:
                                                                  1,123 mL
                                                                    336 mL
   IVF:
                                                                    867 mL
                                                                    123 mL
   Blood products:
   Total out:
                                                                  2,440 mL
                                                                  1,425 mL
   Urine:
                                                                  2,440 mL
                                                                  1,425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -140 mL
                                                                   -885 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 94%
   ABG: ///35/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bilateral bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed, opens eyes to voice.
   Appears a little brighter today, some spontaneous movement of upper
   extremities.
   Labs / Radiology
   455 K/uL
   9.8 g/dL
   125 mg/dL
   0.6 mg/dL
   35 mEq/L
   3.3 mEq/L
   24 mg/dL
   97 mEq/L
   137 mEq/L
   29.9 %
   13.8 K/uL
        [image002.jpg]
   Fingersticks 121-227
   Micro
   [**3-5**] sputum >25 polys no organisms cx pending
   [**3-4**] blood cx pending
   [**3-3**] catheter tip negative
   [**3-2**] sputum moderate MRSA  2 colony morphologies and yeast
   [**3-1**] blood NGTD
   [**3-1**] sputum cx not done
   [**3-1**] urine cx negative
   [**2-24**] blood cx negative
   [**2-23**] legionella antigen negative
   [**2-23**] stood c diff negative
                             [**2156-2-29**]  04:28 PM
                             [**2156-3-1**]  05:00 AM
                             [**2156-3-2**]  05:43 AM
                             [**2156-3-2**]  02:53 PM
                             [**2156-3-3**]  06:29 AM
                             [**2156-3-4**]  04:52 AM
                             [**2156-3-4**]  01:00 PM
                             [**2156-3-5**]  03:37 AM
                             [**2156-3-5**]  04:43 PM
                             [**2156-3-6**]  05:00 AM
   WBC
   21.4
   16.8
   16.7
   13.3
   12.9
   14.5
   13.8
   Hct
   34.6
   29.2
   29.6
   29.7
   26.9
   29.1
   29.9
   Plt
   528
   335
   402
   382
   399
   460
   455
   Cr
   0.7
   0.8
   0.5
   0.6
   0.5
   0.6
   0.6
   0.5
   0.6
   Glucose
   138
   107
   105
   171
   [**Telephone/Fax (2) 586**]14
   125
   Other labs: PT / PTT / INR:13.3/29.4/1.1, CK / CKMB /
   Troponin-T:662/13/0.10, ALT / AST:25/19, Alk Phos / T Bili:98/0.4,
   Amylase / Lipase:74/24, Differential-Neuts:86.6 %, Band:Units: %
   Range: 0-5 %, Lymph:9.4 %, Mono:2.9 %, Eos:0.7 %, Lactic Acid:1.1
   mmol/L, Albumin:2.8 g/dL, LDH:313 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL,
   PO4:1.6 mg/dL
   Assessment and Plan
 PNEUMONIA, ASPIRATION
   No worsening of O2 requirements, currently afebrile. MRSA isolated from
   sputum [**3-2**], may be colonization rather than infection.
   - Discontinue meropenem. Complete 14 day course of vancomycin.
   - Continue routine suctioning, follow up cultures
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC
   - Continue metoprolol, diurese goal net -500 to -1000cc today
 DYSPHAGIA: G-tube in place; high aspiration risk
 H/O C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE)
   -          No diarrhea or abdominal tenderness currently
   -          Continue PO vancomycin for two weeks after broad spectrum
   antibiotics completed
 ANEMIA, CHRONIC. Macrocytic anemia less c/w iron deficiency
 may be
   due to her thyroid disease versus other hematologic process as recent
   folate and B12 were normal recently. Iron panel was normal [**2156-1-14**].
   Hemolysis labs sent yesterday b/c of slight drop in Hct, showed low
   haptoglobin and elevated LDH but normal LDH. Stoosl guiac negative, DAT
   negative.
   -          Hct stable, follow
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   -          Poor status at baseline with added insult of infection and
   ?cerebral hypoxia from PEA arrest, follow.
 URINARY TRACT INFECTION (UTI)
   -          Klebsiella isolated on admission, repeat urine culture
   negative
 h/o Atrial fibrillation with RVR
 currently in sinus rhythm
   -          Titrate up metoprolol as BP tolerates
   -          Not an anticoagulation candidate
 DIABETES MELLITUS (DM), TYPE II
   -          Continue insulin sliding scale
 HYPOTHYROIDISM
   -          Continue levothyroxine
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   -          On beta blocker and ASA
   ICU Care
   Nutrition:
   Replete with Fiber ([**2-6**]) - [**2156-3-6**] 01:00 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2156-3-2**] 12:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Communication:  with daughters
   [**Name (NI) 66**] status: DNR may intubate
   Disposition: call out to floor today

2156-03-06 10:32:00 Physician Attending Progress Note
Chief Complaint: Repiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 52**] yo women originally admitted, severe dimentia (A and O times 1)
   with UTI, c/b PEA on the floor thought to be secondary to aspiration.
   Transferred to ICU.   Subsequently extubated.    Since extubation  poor
   MS - patient opens eyes to voice, no commands.
   24 Hour Events:
 SPUTUM CULTURE - At [**2156-3-5**] 12:02 PM
 CALLED OUT
   No events overnight.  Diuresed.
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Base
   Unknown;
   Lactose Intolerance (Oral) (Lactase)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2156-3-6**] 07:30 AM
   Vancomycin - [**2156-3-6**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2156-3-5**] 11:45 PM
   Other medications:
   Fluoxetine
   MVI
   CaCO
   ASA
   FeSO4
   Hep s/q
   SSI
   synthroid
   lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   More alert responds to voice, name.
   Flowsheet Data as of  [**2156-3-6**] 10:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.2
C (97.1
   HR: 85 (70 - 108) bpm
   BP: 147/72(93){104/38(60) - 153/72(93)} mmHg
   RR: 28 (19 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.2 kg (admission): 40.4 kg
   Height: 58 Inch
             Total In:
                                                                  2,300 mL
                                                                  1,273 mL
   PO:
             TF:
                                                                  1,123 mL
                                                                    450 mL
   IVF:
                                                                    867 mL
                                                                    502 mL
   Blood products:
   Total out:
                                                                  2,440 mL
                                                                  1,595 mL
   Urine:
                                                                  2,440 mL
                                                                  1,595 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -140 mL
                                                                   -322 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: ///35/
   Physical Examination
   PERRL
   Normocephalic
   Edentulous,
   No Cervical [**Doctor First Name **].
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : B/L)
   Abdominal: G-tube
   Skin:  Warm
   Neurologic: Responds to Voice , Said "Yes" to Name.  Does not follow
   commands.
   Labs / Radiology
   9.8 g/dL
   455 K/uL
   125 mg/dL
   0.6 mg/dL
   35 mEq/L
   3.3 mEq/L
   24 mg/dL
   97 mEq/L
   137 mEq/L
   29.9 %
   13.8 K/uL
        [image002.jpg]
                             [**2156-2-29**]  04:28 PM
                             [**2156-3-1**]  05:00 AM
                             [**2156-3-2**]  05:43 AM
                             [**2156-3-2**]  02:53 PM
                             [**2156-3-3**]  06:29 AM
                             [**2156-3-4**]  04:52 AM
                             [**2156-3-4**]  01:00 PM
                             [**2156-3-5**]  03:37 AM
                             [**2156-3-5**]  04:43 PM
                             [**2156-3-6**]  05:00 AM
   WBC
   21.4
   16.8
   16.7
   13.3
   12.9
   14.5
   13.8
   Hct
   34.6
   29.2
   29.6
   29.7
   26.9
   29.1
   29.9
   Plt
   528
   335
   402
   382
   399
   460
   455
   Cr
   0.7
   0.8
   0.5
   0.6
   0.5
   0.6
   0.6
   0.5
   0.6
   Glucose
   138
   107
   105
   171
   [**Telephone/Fax (2) 586**]14
   125
   Other labs: PT / PTT / INR:13.3/29.4/1.1, CK / CKMB /
   Troponin-T:662/13/0.10, ALT / AST:25/19, Alk Phos / T Bili:98/0.4,
   Amylase / Lipase:74/24, Differential-Neuts:86.6 %, Band:Units: %
   Range: 0-5 %, Lymph:9.4 %, Mono:2.9 %, Eos:0.7 %, Lactic Acid:1.1
   mmol/L, Albumin:2.8 g/dL, LDH:313 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL,
   PO4:1.6 mg/dL
   Imaging: CXR with pulmonary edema
   Assessment and Plan
 LEUKOCYTOSIS
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 URINARY TRACT INFECTION (UTI)  Completed meropenem course.
 PNEUMONIA, ASPIRATION  Continue Vancomycin for 14 days for MRSA PNA
 .H/O C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE)  Continue PO Vanco.
 ANEMIA, CHRONIC
 DYSPHAGIA
   G-tube in place; high aspiration risk, s/p GJ tube placement by IR on
   [**3-3**]
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC,   Continue mild diuresis for
   pulmonary edema.
 DIABETES MELLITUS (DM), TYPE II
 HYPOTHYROIDISM
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   AFIB:   well-controlled
   ICU Care
   Nutrition:
   Comments: TFs
   Glycemic Control:
   Lines:
   PICC Line - [**2156-3-2**] 12:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to floor
   Total time spent:  35min